2176-12-23 06:23:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2176-12-22**] 07:15 PM
 NON-INVASIVE VENTILATION - STOP [**2176-12-22**] 08:00 PM
 INVASIVE VENTILATION - START [**2176-12-22**] 09:10 PM
   - Attempted BiPap overnight, not tolerating
   - Desaturating to 70-80's on 100% NRB in setting of clearing secretions
   - Patient intubated to maintain oxygenation
   - Hypotensive overnight on sedation with high dose fentanyl/versed
   Allergies:
   Lidocaine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2176-12-23**] 12:39 AM
   Piperacillin/Tazobactam (Zosyn) - [**2176-12-23**] 01:39 AM
   Infusions:
   Fentanyl - 500 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-12-23**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 74 (70 - 107) bpm
   BP: 98/50(61) {78/41(51) - 123/61(76)} mmHg
   RR: 18 (16 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,096 mL
                                                                  3,112 mL
   PO:
             TF:
   IVF:
                                                                  1,096 mL
                                                                  3,112 mL
   Blood products:
   Total out:
                                                                    730 mL
                                                                    220 mL
   Urine:
                                                                    730 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    366 mL
                                                                  2,892 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (550 - 600) mL
   Vt (Spontaneous): 1,283 (513 - 1,283) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   Compliance: 54.5 cmH2O/mL
   SpO2: 93%
   ABG: 7.35/56/60/28/3
   Ve: 10.1 L/min
   PaO2 / FiO2: 100
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   147 K/uL
   8.7 g/dL
   114 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.3 mEq/L
   10 mg/dL
   104 mEq/L
   139 mEq/L
   26.5 %
   8.5 K/uL
        [image002.jpg]
                            [**2176-12-21**]  05:10 AM
                            [**2176-12-21**]  01:56 PM
                            [**2176-12-22**]  09:51 PM
                            [**2176-12-22**]  10:27 PM
                            [**2176-12-23**]  02:04 AM
                            [**2176-12-23**]  03:44 AM
   WBC
   10.1
   12.5
   8.5
   Hct
   30.6
   34.2
   29.9
   26.5
   Plt
   151
   162
   147
   Cr
   0.6
   0.5
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   32
   32
   Glucose
   161
   133
   114
   Other labs: PT / PTT / INR:15.7/28.4/1.4, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**11-8**], Alk Phos / T Bili:76/0.5,
   Differential-Neuts:89.7 %, Lymph:6.1 %, Mono:2.2 %, Eos:1.8 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:276 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-12-22**] 10:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2176-12-23 07:03:00 Physician Resident Progress Note
Chief Complaint: Admitted wtih respiratory failure
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2176-12-22**] 07:15 PM
 NON-INVASIVE VENTILATION - STOP [**2176-12-22**] 08:00 PM
 INVASIVE VENTILATION - START [**2176-12-22**] 09:10 PM
   - Started Bipap overnight but did not tolerate
   - Desats to 70's, 80's on NRB in setting of coughing
   - Intubated
   Allergies:
   Lidocaine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2176-12-23**] 12:39 AM
   Piperacillin/Tazobactam (Zosyn) - [**2176-12-23**] 01:39 AM
   Infusions:
   Fentanyl - 400 mcg/hour
   Midazolam (Versed) - 12 mg/hour
   Methadone Hydrochloride - 20 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-12-23**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 74 (70 - 107) bpm
   BP: 98/50(61) {78/41(51) - 123/61(76)} mmHg
   RR: 18 (16 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,096 mL
                                                                  3,283 mL
   PO:
             TF:
   IVF:
                                                                  1,096 mL
                                                                  3,253 mL
   Blood products:
   Total out:
                                                                    730 mL
                                                                    300 mL
   Urine:
                                                                    730 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    366 mL
                                                                  2,983 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (550 - 600) mL
   Vt (Spontaneous): 1,283 (513 - 1,283) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   Compliance: 54.5 cmH2O/mL
   SpO2: 93%
   ABG: 7.35/56/60/28/3
   Ve: 10.1 L/min
   PaO2 / FiO2: 100
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: coarse breath sounds bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   147 K/uL
   8.7 g/dL
   114 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.3 mEq/L
   10 mg/dL
   104 mEq/L
   139 mEq/L
   26.5 %
   8.5 K/uL
        [image002.jpg]
                            [**2176-12-21**]  05:10 AM
                            [**2176-12-21**]  01:56 PM
                            [**2176-12-22**]  09:51 PM
                            [**2176-12-22**]  10:27 PM
                            [**2176-12-23**]  02:04 AM
                            [**2176-12-23**]  03:44 AM
   WBC
   10.1
   12.5
   8.5
   Hct
   30.6
   34.2
   29.9
   26.5
   Plt
   151
   162
   147
   Cr
   0.6
   0.5
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   32
   32
   Glucose
   161
   133
   114
   Other labs: PT / PTT / INR:15.7/28.4/1.4, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**11-8**], Alk Phos / T Bili:76/0.5,
   Differential-Neuts:89.7 %, Lymph:6.1 %, Mono:2.2 %, Eos:1.8 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:276 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: bilateral airspace opacities, right greater than left,
   with progresson of left
   mid to lower lung opacity in comparison to [**12-20**].
   Microbiology: GPC in clusters growing from 1/2 bottles on [**2176-12-10**]
   admission cultures
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   Assessment and Plan:  68 y/o M admitted with pneumonia on [**Hospital 4659**]
   transferred to the ICU for desaturation on the floor in setting of
   aspiration.
   .
   # Respiratory Failure:  CXR with worsening bilateral airspace opacities
   R>L.  Hypoxia this PM most likely [**1-27**] aspiration given timing and h/o
   aspiration in past.  Patient ruled out for influenza this hospital
   stay.  No LE swelling to suggest PE, and not volume overloaded on exam
   to suggest heart failure.  Will add flagyl given possibility that
   initial pneumonia was aspiration event.
   - BiPap for now with consideration of intubation if unable to tolerate
   BiPap but currently satting well.
   - Levofloxacin for CAP -> add flagyl now
   - Urine legionella -> negative earlier this hospital stay
   - sputum culture -> resend now.
   - blood cultures -> resend now.
   - NPO except meds.
   - Check ECG, BNP
   .
   # Hypoxia:  Given infiltrates, appears to be in setting of pneumonia.
   Has chest discomfort with deep inspiration and with coughing and
   suspect musculoskeletal from coughing.  Have been able to wean off NRB
   and is currently maintaining O2 sats >93% on NC.
   - continue to wean supplemental O2 as possible
   .
   # N/V/diarrhea:  Reportedly resolved, zofran PRN.  continue to follow.
   - zofran prn
   - send stool if diarrhea returns
   - monitor hct and guaiac stools
   .
   # DM2:  Diet controlled per patient at home.
   - Insulin sliding scale while in house
   .
   # CAD:  Repeat CE's now, BNP, and ECG to r/o ischemic component to
   presentation.
   - continue ASA, statin
   .
   # Chronic pain:  Mainly in the setting of neuropathy.  ? in setting of
   DM although this has been well controlled with a1c consistently <6%.
   - continue outpatient pain regimen with duragesic patch, neurontin,
   oxycodone prn.
   - avoid oversedation given tentative respiratory status
   .
   # Lung nodule:  Noted on [**10-2**] CT abd and appeared more prominent than
   [**1-/2176**] study measuring 8mm.  6 month f/u imaging was recommended.  Does
   have possible left lung base infiltrate as well but mass not visualized
   on CXR and seems less likely to represent postobstructive pneumonia.
   .
   # Anemia:  Baseline hct fluctuates somewhat, but appears most
   consistently mid 30s.  Low MCV with h/o iron deficiency, but patient
   reports he is not taking iron any longer.  Iron studies from [**2174**] c/w
   Fe deficiency.  B12 and folate normal in [**10-2**].  Guaiac negative on
   exam in the ED.  No c-scope in our system since [**2167**] at which time poor
   prep, but did not show significant pathology.
   - continue iron therapy
   - guaiac all stools
   .
   # h/o HCV infection: stable. pt reported history of Hep C infection,
   but no active RUQ pain or abnormal LFTs. Confirmed anti-HCV Ab
   positivity, no viral load in our system. HepB serologies negative for
   past/prior infection.
   .
   # Hyperlipidemia: Continue pravastatin
   .
   # HTN: Continue diltiazem, will switch to short acting for now.
   .
   # Asthma: PFTs in our system last from [**2168**] at which time they were
   normal.
   - continue home ipratropium prn; add albuterol prn
   .
   # BPH: Cont home finasteride.
   .
   # FEN: Replete electrolytes, cardiac, diabetic diet.
   .
   # Prophylaxis: Subcutaneous heparin.  On PPI as outpatient.
   .
   # Access: PIVs.
   .
   # Code: FULL.
   .
   # Communication: Patient.
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-12-22**] 10:46 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2176-12-23 09:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory Distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 year old man with PMH Hep C , CAD, DM, HTn, and s/p recent MICU stay
   for CAP treated with levofloxacin. Transfered to the floor, did not
   require intubation. Suffered aspiration even on the floor and now
   transfered back to the MICU where he underwent a trial of NIPPV but was
   ultimately intubated. Please see previous notes for details.
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2176-12-22**] 07:15 PM
 NON-INVASIVE VENTILATION - STOP [**2176-12-22**] 08:00 PM
 INVASIVE VENTILATION - START [**2176-12-22**] 09:10 PM
   Allergies:
   Lidocaine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2176-12-23**] 01:39 AM
   Vancomycin - [**2176-12-23**] 09:02 AM
   Infusions:
   Midazolam (Versed) - 12 mg/hour
   Fentanyl - 400 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea, No(t) Tachypnea
   Flowsheet Data as of  [**2176-12-23**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 77 (70 - 107) bpm
   BP: 85/45(54) {78/41(51) - 123/61(76)} mmHg
   RR: 18 (16 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,096 mL
                                                                  3,701 mL
   PO:
             TF:
   IVF:
                                                                  1,096 mL
                                                                  3,671 mL
   Blood products:
   Total out:
                                                                    730 mL
                                                                    380 mL
   Urine:
                                                                    730 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    366 mL
                                                                  3,321 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (550 - 600) mL
   Vt (Spontaneous): 1,283 (513 - 1,283) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   Compliance: 42.9 cmH2O/mL
   SpO2: 95%
   ABG: 7.35/56/60/28/3
   Ve: 10.6 L/min
   PaO2 / FiO2: 100
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: R > L )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   8.7 g/dL
   147 K/uL
   114 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.3 mEq/L
   10 mg/dL
   104 mEq/L
   139 mEq/L
   26.5 %
   8.5 K/uL
        [image002.jpg]
                            [**2176-12-21**]  05:10 AM
                            [**2176-12-21**]  01:56 PM
                            [**2176-12-22**]  09:51 PM
                            [**2176-12-22**]  10:27 PM
                            [**2176-12-23**]  02:04 AM
                            [**2176-12-23**]  03:44 AM
   WBC
   10.1
   12.5
   8.5
   Hct
   30.6
   34.2
   29.9
   26.5
   Plt
   151
   162
   147
   Cr
   0.6
   0.5
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   32
   32
   Glucose
   161
   133
   114
   Other labs: PT / PTT / INR:15.7/28.4/1.4, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**11-8**], Alk Phos / T Bili:76/0.5,
   Differential-Neuts:89.7 %, Lymph:6.1 %, Mono:2.2 %, Eos:1.8 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:276 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   68 year old man with recent MICU stay for CAP, now represents with
   hypoxic respiratory failure [**1-27**] aspiration. Now intubated. Wean fio2
   and (when Fi02 0.40) PEEP for Pa02 > 60.
   Lung protective ventilation with target Vt 6cc/kg. Agree with
   vanc/zosyn pending cultures but presentation is also consistent with
   aspiration pneumonitis. Hypotension related to hypovolemia, sedation
   and low SVR [**1-27**] aspiration event. Will bolus IVF today and place CVC,
   levophed as needed. Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: Nutrition consult for tube feeds today.
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-12-22**] 10:46 PM
   Comments: Will need CVC
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2176-12-24 07:24:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure/ARDS
   24 Hour Events:
 MULTI LUMEN - START [**2176-12-23**] 02:30 PM
 ARTERIAL LINE - START [**2176-12-23**] 04:00 PM
 FEVER - 101.1
F - [**2176-12-23**] 10:30 AM
   -Weaning tidal volumes
   -R-IF placed
   -A-Line placed
   -Changed from dopamine to levophed
   -ID requesting change to vanco/ceftaz
   -Started tube feeds
   Allergies:
   Lidocaine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2176-12-23**] 01:39 AM
   Vancomycin - [**2176-12-23**] 09:09 PM
   Ceftazidime - [**2176-12-24**] 04:20 AM
   Metronidazole - [**2176-12-24**] 06:02 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 250 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2176-12-23**] 12:56 PM
   Heparin Sodium (Prophylaxis) - [**2176-12-23**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-12-24**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.2
C (99
   HR: 72 (71 - 92) bpm
   BP: 127/63(86) {88/47(64) - 127/102(107)} mmHg
   RR: 0 (0 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  7,666 mL
                                                                    686 mL
   PO:
             TF:
                                                                     28 mL
                                                                     70 mL
   IVF:
                                                                  7,458 mL
                                                                    565 mL
   Blood products:
   Total out:
                                                                  2,905 mL
                                                                  1,200 mL
   Urine:
                                                                  2,905 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,761 mL
                                                                   -514 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 600) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   Compliance: 49.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.36/55/98.[**Numeric Identifier 176**]/30/3
   Ve: 15.1 L/min
   PaO2 / FiO2: 163
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), coarse mechanical breath
   sounds bilaterally with good air flow
   Abdominal: Soft, Non-tender, No(t) Tender: , Obese
   Extremities: Right: Trace, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   202 K/uL
   9.4 g/dL
   127 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.3 mEq/L
   6 mg/dL
   108 mEq/L
   146 mEq/L
   28.7 %
   10.4 K/uL
        [image002.jpg]
                            [**2176-12-22**]  09:51 PM
                            [**2176-12-22**]  10:27 PM
                            [**2176-12-23**]  02:04 AM
                            [**2176-12-23**]  03:44 AM
                            [**2176-12-23**]  01:37 PM
                            [**2176-12-23**]  06:11 PM
                            [**2176-12-23**]  08:09 PM
                            [**2176-12-23**]  10:29 PM
                            [**2176-12-24**]  03:35 AM
                            [**2176-12-24**]  04:22 AM
   WBC
   12.5
   8.5
   10.4
   Hct
   29.9
   26.5
   28.7
   Plt
   162
   147
   202
   Cr
   0.5
   0.5
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   32
   32
   31
   30
   28
   28
   32
   Glucose
   133
   114
   127
   Other labs: PT / PTT / INR:15.7/28.4/1.4, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**11-8**], Alk Phos / T Bili:76/0.5,
   Differential-Neuts:89.7 %, Lymph:6.1 %, Mono:2.2 %, Eos:1.8 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.9 g/dL, LDH:276 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Imaging: CXR: Examination is technically limited by respiratory motion.
   Endotracheal tube
   has been advanced and now terminates about 6 cm above the carina.
   Nasogastric
   tube continues to terminate in the stomach with side port in close
   proximity
   to the GE junction. Widespread alveolar process affecting the right
   lung to a greater degree than the left is slightly worse compared to
   the previous study, particularly in the right upper lobe. Additionally,
   within the left lower lung, there is a suggestion of several poorly
   defined nodular opacities. Small right pleural effusion has not
   substantially changed.
   Microbiology: BCx: Staph Aurues (Sensitive to levaquin)
   Sputum Culture: Staph Aureues
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   Assessment and Plan:  68 y/o M admitted with pneumonia on [**Hospital 4659**]
   transferred to the ICU for desaturation on the floor in setting of
   aspiration.
   .
   # Respiratory Failure:  ARDS given b/l infiltrates, current vent
   requirements.  Likely [**1-27**] to aspiration pneumonitis, but concern for
   worsening pneumonia.  ?MRSA pneumonia given blood cultures.  Changed
   antibiotics yesterday to vanco/ceftazidime.  Weaning TV and opting for
   increased PEEP given ARDS.  P/F ratio improved to 167 today and CXR
   improving.
   - Intubated, continue ventilation with ARDSNet settings.
   -Vanco/Ceftaz -> narrow to vanco monotherapy in 24 hours if now new
   culture growth
   -f/u blood cultures and sputum cultures
   .
   #Hypotension: Likely from systemic resonse to ARDS, ?role of sepsis.
   Minimally fluid responsive with ongoing pressor requirement. Good UOP
   with stable creatinine.  [**Month (only) 51**] still have some degree of fluid
   responsiveness by chest x-ray findings, so would consider further fluid
   bolus if unable to wean pressors.
   -Wean pressors as tolerated with goal MAP > 60
   -Check CVP today
   .
   #Sedation: Currently on propofol, versed, and fentanyl.  Attempt to
   wean fentanyl/versed given potential contribution to sedation.
   Uptitrate propofol, and wean fentanyl/versed
   - continue fentanyl patches
   .
   #Hypernatremia: Increase free water boluses with tube feeds.
   .
   # N/V/diarrhea:  Resolved, continue to follow.
   - send stool if diarrhea returns
   - monitor hct and guaiac stools
   .
   # DM2:  Diet controlled per patient at home.  On sliding scale with
   FSG's<150
   - Insulin sliding scale while in house
   .
   # CAD:  CE's negative x2
   - continue ASA, statin, hold BP Medications
   .
   # Chronic pain:  Mainly in the setting of neuropathy.  ? in setting of
   DM although this has been well controlled with a1c consistently <6%.
   -continue duragesic patches now.
   - avoid oversedation given tentative respiratory status
   .
   # Lung nodule:  Noted on [**10-2**] CT abd and appeared more prominent than
   [**1-/2176**] study measuring 8mm.  6 month f/u imaging was recommended.  Does
   have possible left lung base infiltrate as well but mass not visualized
   on CXR and seems less likely to represent postobstructive pneumonia.
   .
   # Anemia:  Stable.  Baseline hct fluctuates somewhat, but appears most
   consistently mid 30s.  Low MCV with h/o iron deficiency, but patient
   reports he is not taking iron any longer.  Iron studies from [**2174**] c/w
   Fe deficiency.  B12 and folate normal in [**10-2**].  Guaiac negative on
   exam in the ED.  No c-scope in our system since [**2167**] at which time poor
   prep, but did not show significant pathology.
   - continue iron therapy
   .
   # h/o HCV infection: stable. pt reported history of Hep C infection,
   but no active RUQ pain or abnormal LFTs. Confirmed anti-HCV Ab
   positivity, no viral load in our system. HepB serologies negative for
   past/prior infection.
   .
   # Hyperlipidemia: Continue pravastatin
   .
   # HTN: Hold BP medications
   .
   # Asthma: PFTs in our system last from [**2168**] at which time they were
   normal.
   - continue home ipratropium prn; add albuterol prn  -> no indication
   for steroids at this time.
   .
   # BPH: Holding home finasteride.
   .
   # FEN: Replete electrolytes, cardiac, diabetic diet.
   .
   # Prophylaxis: Subcutaneous heparin.  On PPI as outpatient.
   # Access: PIVs., CVL
   # Code: FULL.
   # Communication: Patient and son
   # Disposition: pending above
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-12-23**] 09:10 PM 10 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-12-23**] 10:05 AM
   Multi Lumen - [**2176-12-23**] 02:30 PM
   Arterial Line - [**2176-12-23**] 04:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2176-12-24 11:28:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see previous notes for details. Briefly, 68 year old man
   admitted withCAP , on the floor on levofloxacin, transfered to the MICU
   with aspiration event and ARDS.
   24 Hour Events:
 MULTI LUMEN - START [**2176-12-23**] 02:30 PM
 ARTERIAL LINE - START [**2176-12-23**] 04:00 PM
 FEVER - 101.1
F - [**2176-12-23**] 10:30 AM
   Allergies:
   Lidocaine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2176-12-23**] 01:39 AM
   Ceftazidime - [**2176-12-24**] 04:20 AM
   Metronidazole - [**2176-12-24**] 06:02 AM
   Vancomycin - [**2176-12-24**] 08:30 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2176-12-24**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2176-12-24**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Flowsheet Data as of  [**2176-12-24**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 68 (68 - 85) bpm
   BP: 107/50(69) {88/47(64) - 134/102(107)} mmHg
   RR: 32 (0 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  7,666 mL
                                                                  1,201 mL
   PO:
             TF:
                                                                     28 mL
                                                                    131 mL
   IVF:
                                                                  7,458 mL
                                                                    960 mL
   Blood products:
   Total out:
                                                                  2,905 mL
                                                                  1,475 mL
   Urine:
                                                                  2,905 mL
                                                                  1,475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,761 mL
                                                                   -274 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 600) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   Compliance: 44.6 cmH2O/mL
   SpO2: 97%
   ABG: 7.36/55/98.[**Numeric Identifier 176**]/30/3
   Ve: 15.3 L/min
   PaO2 / FiO2: 163
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: No(t)
   Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   202 K/uL
   127 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.3 mEq/L
   6 mg/dL
   108 mEq/L
   146 mEq/L
   28.7 %
   10.4 K/uL
        [image002.jpg]
                            [**2176-12-22**]  09:51 PM
                            [**2176-12-22**]  10:27 PM
                            [**2176-12-23**]  02:04 AM
                            [**2176-12-23**]  03:44 AM
                            [**2176-12-23**]  01:37 PM
                            [**2176-12-23**]  06:11 PM
                            [**2176-12-23**]  08:09 PM
                            [**2176-12-23**]  10:29 PM
                            [**2176-12-24**]  03:35 AM
                            [**2176-12-24**]  04:22 AM
   WBC
   12.5
   8.5
   10.4
   Hct
   29.9
   26.5
   28.7
   Plt
   162
   147
   202
   Cr
   0.5
   0.5
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   32
   32
   31
   30
   28
   28
   32
   Glucose
   133
   114
   127
   Other labs: PT / PTT / INR:15.7/28.4/1.4, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**11-8**], Alk Phos / T Bili:76/0.5,
   Differential-Neuts:89.7 %, Lymph:6.1 %, Mono:2.2 %, Eos:1.8 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.9 g/dL, LDH:276 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   68 year old man with hypoxemic respiratory failure and ARDS. On low
   tidal volume ventilation. S. Aureus in sputm and blood now so etiology
   likely aspiration plus
   staph pneumonia. Continue broad abx pending finalization of cultures.
   Can DC flagyl. Will check CVP today. On very minimal pressors in the
   setting of sedation
   so would favor diuresis today with goal TBB -500 to 1L. Further plans
   as per resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-12-23**] 09:10 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2176-12-23**] 10:05 AM
   Multi Lumen - [**2176-12-23**] 02:30 PM
   Arterial Line - [**2176-12-23**] 04:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2176-12-25 07:20:00 Physician Resident Progress Note
Chief Complaint: Pneumonia, ARDS
   24 Hour Events:
   - Given 20 mg IV lasix in morning, again in evening for goal net out
   over 24 hours (CVP was 9 initially)
   - Weaned FiO2 to 50%, rate 30, ABG at goal with changes
   - Blood cultures from [**12-23**] returned MRSA (sputum not speciated)
   although returned as error this AM -> is actually MSSA
   - Weaned levophed down to 0.02 mcg/kg/min
   - Increased FW since Na up to 147
   Allergies:
   Lidocaine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2176-12-23**] 01:39 AM
   Metronidazole - [**2176-12-24**] 06:02 AM
   Vancomycin - [**2176-12-24**] 07:12 PM
   Ceftazidime - [**2176-12-25**] 03:25 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2176-12-24**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2176-12-24**] 02:45 PM
   Furosemide (Lasix) - [**2176-12-24**] 08:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-12-25**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.2
C (97.1
   HR: 75 (67 - 75) bpm
   BP: 91/43(58) {84/43(58) - 134/68(91)} mmHg
   RR: 30 (0 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 11 (6 - 15)mmHg
   Total In:
                                                                  2,966 mL
                                                                    825 mL
   PO:
   TF:
                                                                    669 mL
                                                                    359 mL
   IVF:
                                                                  1,907 mL
                                                                    346 mL
   Blood products:
   Total out:
                                                                  3,240 mL
                                                                    995 mL
   Urine:
                                                                  3,240 mL
                                                                    995 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -274 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 93%
   ABG: 7.41/58/91/33/9
   Ve: 13.7 L/min
   PaO2 / FiO2: 182
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: pupils slightly asymmetric left smaller than right,
   but reactive bilaterally
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : mechanical breath sounds
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   197 K/uL
   9.5 g/dL
   121 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.7 mEq/L
   9 mg/dL
   106 mEq/L
   147 mEq/L
   28.9 %
   6.4 K/uL
        [image002.jpg]
                            [**2176-12-23**]  03:44 AM
                            [**2176-12-23**]  01:37 PM
                            [**2176-12-23**]  06:11 PM
                            [**2176-12-23**]  08:09 PM
                            [**2176-12-23**]  10:29 PM
                            [**2176-12-24**]  03:35 AM
                            [**2176-12-24**]  04:22 AM
                            [**2176-12-24**]  04:13 PM
                            [**2176-12-25**]  01:35 AM
                            [**2176-12-25**]  01:38 AM
   WBC
   8.5
   10.4
   6.4
   Hct
   26.5
   28.7
   28.9
   Plt
   147
   202
   197
   Cr
   0.5
   0.5
   0.7
   TropT
   <0.01
   TCO2
   31
   30
   28
   28
   32
   35
   38
   Glucose
   114
   127
   121
   Other labs: PT / PTT / INR:15.7/28.4/1.4, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**11-8**], Alk Phos / T Bili:76/0.5,
   Differential-Neuts:89.7 %, Lymph:6.1 %, Mono:2.2 %, Eos:1.8 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.9 g/dL, LDH:276 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR: Endotracheal tube tip terminates 6.5 cm above the carina,
   but the tube is apparently angled with respect to the tracheal lumen,
   abutting the right
   lateral wall of the trachea at the level of the thoracic inlet.
   Widespread
   asymmetrical multifocal areas of consolidation appear slightly
   improved,
   likely due to multifocal pneumonia. Probable small left pleural
   effusion, new in the interval.
   .
   CXR Today: Worsening RUL opacity, improved LLL component
   Microbiology: [**12-20**]: MRSA in blood
   [**12-20**]: Staph in Sputum
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   .
   Assessment and Plan:  68 y/o M admitted with pneumonia on [**Hospital 4659**]
   transferred to the ICU for desaturation on the floor in setting of
   aspiration.
   .
   # Respiratory Failure:  ARDS given b/l infiltrates, current vent
   requirements with P/F of 182 currently.  Likely [**1-27**] to aspiration
   pneumonitis, but concern for MRSA pneumonia.  Continuing antibiotics.
   Weaning TV and opting for increased PEEP given ARDS.  P/F ratio
   improved today
   - Intubated, continue ventilation with ARDSNet settings.
   - Narrow to nafcililn today, continue to follow clinically
   - f/u blood cultures and sputum cultures
   .
   #Hypotension: Likely from systemic resonse to ARDS, ?role of sepsis and
   propofol for sedation, now on minimal pressors, good UOP with stable
   creatinine.  CVP continues to be elevated from goal
   -Wean pressors as tolerated with goal MAP > 60
   -Check CVP today, attempt to diurese given benefit shown of low CVP in
   patients with ARDS.
   .
   #Sedation: Currently on propofol. versed, and fentanyl weaned to off.
   - continue fentanyl patches and propofol
   - daily wake up
   .
   #Hypernatremia: Increase free water boluses with tube feeds.  Repeat
   Sodium q8H today.
   .
   #Anisicoria: Not previously noted.  Daily wake-ups to assess mental
   status, pupils reactive which is reassuring.
   - With sedation weaned is moving all extremities and agitated,
   anisicoria resolved this AM.
   .
   # N/V/diarrhea:  Resolved, continue to follow.
    - send stool if diarrhea returns
   - monitor hct and guaiac stools
   .
   # DM2:  Diet controlled per patient at home.  On sliding scale with
   FSG's<150
   - Insulin sliding scale while in house
   .
   # CAD:  CE's negative x2
   - continue ASA, statin, hold BP Medications
   .
   # Chronic pain:  Mainly in the setting of neuropathy.  ? in setting of
   DM although this has been well controlled with a1c consistently <6%.
   -continue duragesic patches now.
   - avoid oversedation given tentative respiratory status
   .
   # Lung nodule:  Noted on [**10-2**] CT abd and appeared more prominent than
   [**1-/2176**] study measuring 8mm.  6 month f/u imaging was recommended.  Does
   have possible left lung base infiltrate as well but mass not visualized
   on CXR and seems less likely to represent postobstructive pneumonia.
   .
   # Anemia:  Stable.  Baseline hct fluctuates somewhat, but appears most
   consistently mid 30s.  Low MCV with h/o iron deficiency, but patient
   reports he is not taking iron any longer.  Iron studies from [**2174**] c/w
   Fe deficiency.  B12 and folate normal in [**10-2**].  Guaiac negative on
   exam in the ED.  No c-scope in our system since [**2167**] at which time poor
   prep, but did not show significant pathology.
   - continue iron therapy
   .
   # h/o HCV infection: stable. pt reported history of Hep C infection,
   but no active RUQ pain or abnormal LFTs. Confirmed anti-HCV Ab
   positivity, no viral load in our system. HepB serologies negative for
   past/prior infection.
   .
   # Hyperlipidemia: Continue pravastatin
   .
   # HTN: Hold BP medications
   .
   # Asthma: PFTs in our system last from [**2168**] at which time they were
   normal.
   - continue home ipratropium prn; add albuterol prn  -> no indication
   for steroids at this time.
   .
   # BPH: Holding home finasteride.
   .
   # FEN: Replete electrolytes, cardiac, diabetic diet.
   .
   # Prophylaxis: Subcutaneous heparin.  On PPI as outpatient.
   # Access: PIVs., CVL
   # Code: FULL.
   # Communication: Patient and son
   # Disposition: pending above
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-12-25**] 05:50 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2176-12-23**] 10:05 AM
   Multi Lumen - [**2176-12-23**] 02:30 PM
   Arterial Line - [**2176-12-23**] 04:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2176-12-25 10:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 year old man with MSSA pneumonia, bacteremia, aspiration and ARDS.
   Please see previous notes for details. Low dose pressors in the setting
   of sedation and now attempting diuresis. Please see previous notes for
   details.
   24 Hour Events:
   Allergies:
   Lidocaine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2176-12-23**] 01:39 AM
   Metronidazole - [**2176-12-24**] 06:02 AM
   Ceftazidime - [**2176-12-25**] 03:25 AM
   Vancomycin - [**2176-12-25**] 08:51 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2176-12-24**] 08:54 PM
   Heparin Sodium (Prophylaxis) - [**2176-12-25**] 08:51 AM
   Lansoprazole (Prevacid) - [**2176-12-25**] 08:51 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-12-25**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 71 (67 - 88) bpm
   BP: 83/39(52) {83/39(52) - 129/68(90)} mmHg
   RR: 30 (0 - 32) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 10 (6 - 20)mmHg
   Total In:
                                                                  2,966 mL
                                                                  1,636 mL
   PO:
   TF:
                                                                    669 mL
                                                                    530 mL
   IVF:
                                                                  1,907 mL
                                                                    675 mL
   Blood products:
   Total out:
                                                                  3,240 mL
                                                                  1,095 mL
   Urine:
                                                                  3,240 mL
                                                                  1,095 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -274 mL
                                                                    541 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 23 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 90%
   ABG: 7.41/58/91/33/9
   Ve: 20.9 L/min
   PaO2 / FiO2: 182
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: No spontaneous
   movement, Sedated, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   197 K/uL
   121 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.7 mEq/L
   9 mg/dL
   106 mEq/L
   147 mEq/L
   28.9 %
   6.4 K/uL
        [image002.jpg]
                            [**2176-12-23**]  03:44 AM
                            [**2176-12-23**]  01:37 PM
                            [**2176-12-23**]  06:11 PM
                            [**2176-12-23**]  08:09 PM
                            [**2176-12-23**]  10:29 PM
                            [**2176-12-24**]  03:35 AM
                            [**2176-12-24**]  04:22 AM
                            [**2176-12-24**]  04:13 PM
                            [**2176-12-25**]  01:35 AM
                            [**2176-12-25**]  01:38 AM
   WBC
   8.5
   10.4
   6.4
   Hct
   26.5
   28.7
   28.9
   Plt
   147
   202
   197
   Cr
   0.5
   0.5
   0.7
   TropT
   <0.01
   TCO2
   31
   30
   28
   28
   32
   35
   38
   Glucose
   114
   127
   121
   Other labs: PT / PTT / INR:15.7/28.4/1.4, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**11-8**], Alk Phos / T Bili:76/0.5,
   Differential-Neuts:89.7 %, Lymph:6.1 %, Mono:2.2 %, Eos:1.8 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.9 g/dL, LDH:276 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   68 year old man with MSSA pneumonina and bacteremia, ARDS. On stable
   vent settings. Continue diuresis, wean fi02 as tolerated for pa02 > 60.
   When down to 0.4 can wean PEEP.
   Can narrow abx to nafcillin today. Further plans as per resident
   note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-12-25**] 05:50 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2176-12-23**] 10:05 AM
   Multi Lumen - [**2176-12-23**] 02:30 PM
   Arterial Line - [**2176-12-23**] 04:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2176-12-26 06:42:00 Physician Resident Progress Note
Chief Complaint: ARDS, Respiratory Failure
   24 Hour Events:
   - Hypernatremia resolved with increased free water boluses
   - Attempted to diurese and wean pressors, but net even with 20mg IV x1,
   and 40mg IVx1
   - CXR reported as concerning for hemorrhage, but clinically improving
   on ventilation, and not suctioning pink/bloody secretions at all.
   - Narrowed to nafcillin from vanco/zosyn yesterday.
   Allergies:
   Lidocaine
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2176-12-24**] 06:02 AM
   Ceftazidime - [**2176-12-25**] 03:25 AM
   Vancomycin - [**2176-12-25**] 08:51 AM
   Nafcillin - [**2176-12-26**] 04:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-12-25**] 08:51 AM
   Lansoprazole (Prevacid) - [**2176-12-25**] 08:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-12-26**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 83 (64 - 88) bpm
   BP: 100/51(67) {70/35(46) - 124/62(80)} mmHg
   RR: 30 (20 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 8 (6 - 20)mmHg
   Total In:
                                                                  3,902 mL
                                                                  1,278 mL
   PO:
   TF:
                                                                  1,263 mL
                                                                    389 mL
   IVF:
                                                                  1,529 mL
                                                                    559 mL
   Blood products:
   Total out:
                                                                  3,880 mL
                                                                    890 mL
   Urine:
                                                                  3,880 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     22 mL
                                                                    388 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 95%
   ABG: 7.41/57/139//9
   Ve: 14.6 L/min
   PaO2 / FiO2: 278
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   mechanical breath sounds anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   193 K/uL
   9.4 g/dL
   121 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.9 mEq/L
   9 mg/dL
   106 mEq/L
   140 mEq/L
   29.3 %
   5.7 K/uL
        [image002.jpg]
                            [**2176-12-23**]  08:09 PM
                            [**2176-12-23**]  10:29 PM
                            [**2176-12-24**]  03:35 AM
                            [**2176-12-24**]  04:22 AM
                            [**2176-12-24**]  04:13 PM
                            [**2176-12-25**]  01:35 AM
                            [**2176-12-25**]  01:38 AM
                            [**2176-12-25**]  05:58 PM
                             [**2176-12-26**]  05:28 AM
                             [**2176-12-26**]  05:40 AM
   WBC
   10.4
   6.4
   5.7
   Hct
   28.7
   28.9
   29.3
   Plt
   [**Telephone/Fax (3) 4727**]
   Cr
   0.5
   0.7
   TCO2
   28
   28
   32
   35
   38
   38
   37
   Glucose
   127
   121
   Other labs: PT / PTT / INR:15.7/28.4/1.4, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**11-8**], Alk Phos / T Bili:76/0.5,
   Differential-Neuts:89.7 %, Lymph:6.1 %, Mono:2.2 %, Eos:1.8 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:276 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR: IMPRESSION:
   1. Worsening of heterogeneous opacity in the right lung and left lower
   lobe consistent with worsening multifocal pneumonia. Hemorrhage into
   the area of pneumonia could also give this appearance.
   2. Endotracheal tube diameter [**12-28**] of the trachea, which is smaller than
   optimal.
   Microbiology: MSSA in blood
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   --------
   Assessment and Plan:  68 y/o M admitted with pneumonia on [**Hospital 4659**]
   transferred to the ICU for desaturation on the floor in setting of
   aspiration.
   .
   # Respiratory Failure:  ARDS given b/l infiltrates, current vent
   requirements with P/F of >200 today.  Cultures confirmed as MSSA so
   narrowed to nafcillin yesterday.  Continue to wean vent as tolerated
   with reducing FiO2 steadily and then weaning PEEP as tolerated.  As
   long as clinically improving and suction is not c/w hemorrhage would
   not raise concern for DAH or pulmonary hemorrhage.
   - Intubated, continue ventilation with ARDSNet settings.
   - Narrow to nafcililn today, continue to follow clinically
   - f/u blood cultures and sputum cultures
   .
   #Hypotension: Likely from systemic resonse to ARDS, ?role of sepsis and
   propofol for sedation, now on minimal pressors, good UOP with stable
   creatinine.  CVP continues to be elevated from goal
   -Wean pressors as tolerated with goal MAP > 60
   -Check CVP today, attempt to diurese given benefit shown of low CVP in
   patients with ARDS.
   .
   #Sedation: Currently on propofol. versed, and fentanyl weaned to off.
   - continue fentanyl patches and propofol
   - daily wake up
   .
   #Hypernatremia: Resolved, continue to trend Increase free water boluses
   with tube feeds.  Repeat Sodium q8H today.
   .
   # N/V/diarrhea:  Resolved, continue to follow.
    - send stool if diarrhea returns
   - monitor hct and guaiac stools
   .
   # DM2:  Diet controlled per patient at home.  On sliding scale with
   FSG's<150
   - Insulin sliding scale while in house
   .
   # CAD:  CE's negative x2
   - continue ASA, statin, hold BP Medications
   .
   # Chronic pain:  Neuropathy
   -continue duragesic patches now.
   - avoid oversedation given tentative respiratory status
   .
   # Lung nodule:  Noted on [**10-2**] CT abd and appeared more prominent than
   [**1-/2176**] study measuring 8mm.  6 month f/u imaging was recommended.
   Repeat CT as needed.
   .
   # Anemia:  Stable.
   - continue iron therapy
   .
   # h/o HCV infection: stable. pt reported history of Hep C infection,
   but no active RUQ pain or abnormal LFTs. Confirmed anti-HCV Ab
   positivity, no viral load in our system. HepB serologies negative for
   past/prior infection.
   .
   # Hyperlipidemia: Continue pravastatin
   .
   # HTN: Hold BP medications
   .
   # Asthma: PFTs in our system last from [**2168**] at which time they were
   normal.
   - continue home ipratropium prn; add albuterol prn  -> no indication
   for steroids at this time.
   .
   # BPH: Holding home finasteride.
   .
   # FEN: Replete electrolytes, cardiac, diabetic diet.
   .
   # Prophylaxis: Subcutaneous heparin.  On PPI as outpatient.
   # Access: PIVs., CVL
   # Code: FULL.
   # Communication: Patient and son
   # Disposition: pending above
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-12-25**] 08:05 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-12-23**] 02:30 PM
   Arterial Line - [**2176-12-23**] 04:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Will start lasix gtt today with goal net out of 500-1L, CVP goal of < 5
   as tolerated by pressures.  Wean PEEP/FiO2 as tolerated with plan for
   extubation tomorrow if possible.
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 569**], MD
   on:[**2176-12-26**] 11:43 ------

2176-12-26 09:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Free water boluses increased-->sodium improved
   Attempted diuresis yesterday-->managed to be net even.
   Vanc/Zosyn narrowed to Nafcillin
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Lidocaine
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2176-12-24**] 06:02 AM
   Ceftazidime - [**2176-12-25**] 03:25 AM
   Vancomycin - [**2176-12-25**] 08:51 AM
   Nafcillin - [**2176-12-26**] 08:50 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-12-26**] 08:51 AM
   Other medications:
   Colase, neurontin, fluticasone, celebrex, atrovent, peridex,
   pravastatin, Lansoprazole, zoloft, ASA,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-12-26**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 94 (64 - 94) bpm
   BP: 106/52(325) {70/35(46) - 127/69(325)} mmHg
   RR: 14 (14 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 10 (6 - 11)mmHg
   Total In:
                                                                  3,902 mL
                                                                  1,868 mL
   PO:
   TF:
                                                                  1,263 mL
                                                                    544 mL
   IVF:
                                                                  1,529 mL
                                                                    814 mL
   Blood products:
   Total out:
                                                                  3,880 mL
                                                                  1,770 mL
   Urine:
                                                                  3,880 mL
                                                                  1,770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     22 mL
                                                                     98 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 96%
   ABG: 7.41/57/139/34/9
   Ve: 14.6 L/min
   PaO2 / FiO2: 278
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : mechanical BS)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   193 K/uL
   141 mg/dL
   0.7 mg/dL
   34 mEq/L
   3.9 mEq/L
   14 mg/dL
   101 mEq/L
   140 mEq/L
   29.3 %
   5.7 K/uL
        [image002.jpg]
                            [**2176-12-23**]  08:09 PM
                            [**2176-12-23**]  10:29 PM
                            [**2176-12-24**]  03:35 AM
                            [**2176-12-24**]  04:22 AM
                            [**2176-12-24**]  04:13 PM
                            [**2176-12-25**]  01:35 AM
                            [**2176-12-25**]  01:38 AM
                            [**2176-12-25**]  05:58 PM
                             [**2176-12-26**]  05:28 AM
                             [**2176-12-26**]  05:40 AM
   WBC
   10.4
   6.4
   5.7
   Hct
   28.7
   28.9
   29.3
   Plt
   [**Telephone/Fax (3) 4727**]
   Cr
   0.5
   0.7
   0.7
   TCO2
   28
   28
   32
   35
   38
   38
   37
   Glucose
   127
   121
   141
   Other labs: PT / PTT / INR:15.7/28.4/1.4, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**11-8**], Alk Phos / T Bili:76/0.5,
   Differential-Neuts:89.7 %, Lymph:6.1 %, Mono:2.2 %, Eos:1.8 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:276 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Respiratory Failure:  ARDS secondary to witnessed aspiration.  Overall
   trend has been improvement in oxygenation and mechanics.
       -Check CXR today
       -Decrease PEEP now.  If tolerates, will try PSV trial and wean as
   able.
       -Continue to diurese as able. Goal CVP < 5. Will try lasix drip.
   Hypotension:  Still requiring small amounts of levophed while on
   propofol
      -Will continue with diuresis as above
      -Once on PSV, will try to wean propofol monitor pressor requirement
   Pneumonia:  Abx switched to Nafcillin yesterday given culture results
           -Will complete 7 day course of abx and monitor fever curve/WBC
   on new regimen
   Hypernatremia:  Resolved with additional free water.
   Pain Control: Will monitor requirements as sedation is lessened.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-12-25**] 08:05 PM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2176-12-23**] 02:30 PM
   Arterial Line - [**2176-12-23**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2176-12-27 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   weaned peep to 8
   - still needs higher FI02 with turning
   - lasix gtt held for a few hours given alkylosis
   - changed over to PSV this AM
   Allergies:
   Lidocaine
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2176-12-25**] 03:25 AM
   Vancomycin - [**2176-12-25**] 08:51 AM
   Nafcillin - [**2176-12-27**] 12:00 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-12-26**] 08:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-12-27**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.1
   HR: 82 (66 - 94) bpm
   BP: 88/45(59) {88/40(56) - 160/87(325)} mmHg
   RR: 26 (14 - 31) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 7 (3 - 16)mmHg
   Total In:
                                                                  4,239 mL
                                                                  1,260 mL
   PO:
   TF:
                                                                  1,440 mL
                                                                    458 mL
   IVF:
                                                                  1,799 mL
                                                                    472 mL
   Blood products:
   Total out:
                                                                  4,540 mL
                                                                    540 mL
   Urine:
                                                                  4,540 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -301 mL
                                                                    720 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 670 (670 - 670) mL
   RR (Set): 26
   RR (Spontaneous): 7
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 96
   PIP: 23 cmH2O
   Plateau: 15 cmH2O
   Compliance: 64.3 cmH2O/mL
   SpO2: 90%
   ABG: 7.46/57/72/37/13
   Ve: 13.1 L/min
   PaO2 / FiO2: 144
   Physical Examination
   General Appearance: Well nourished, moves around in bed
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, JVP not grossly elevated
   Cardiovascular: RRR
   Respiratory / Chest:  dry crackles bilateral bases
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   176 K/uL
   9.4 g/dL
   151 mg/dL
   0.6 mg/dL
   37 mEq/L
   3.0 mEq/L
   12 mg/dL
   96 mEq/L
   141 mEq/L
   28.1 %
   6.6 K/uL
        [image002.jpg]
                            [**2176-12-25**]  01:35 AM
                            [**2176-12-25**]  01:38 AM
                            [**2176-12-25**]  05:58 PM
                             [**2176-12-26**]  05:28 AM
                             [**2176-12-26**]  05:40 AM
                             [**2176-12-26**]  11:21 AM
                             [**2176-12-26**]  02:45 PM
                             [**2176-12-26**]  05:54 PM
                             [**2176-12-27**]  04:23 AM
                             [**2176-12-27**]  05:11 AM
   WBC
   6.4
   5.7
   6.6
   Hct
   28.9
   29.3
   28.1
   Plt
   197
   193
   176
   Cr
   0.7
   0.7
   0.6
   TCO2
   38
   38
   37
   39
   41
   41
   42
   Glucose
   121
   141
   151
   Other labs: PT / PTT / INR:15.7/28.4/1.4, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**8-19**], Alk Phos / T Bili:92/0.5,
   Differential-Neuts:89.7 %, Lymph:6.1 %, Mono:2.2 %, Eos:1.8 %, Lactic
   Acid:1.2 mmol/L, Albumin:2.4 g/dL, LDH:299 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   MICRO:
   [**12-24**] sputum: O/P flora
   [**12-23**] BCx: NGTD
   [**12-22**] BCx: NGTD
   [**12-21**] viral DFA: negative
   [**12-20**] sputum: heavy growth MSSA
   [**12-20**] BCX: MSSA
   Assessment and Plan
   Assessment and Plan:  68 y/o M initially admitted to ICU with
   pneumonia, treated with levaquin, transferred back to the ICU for
   desaturation on the floor in setting of aspiration, developed ARDS.
   .
   # Respiratory Failure:  Due to aspiration. Had ARDS given b/l
   infiltrates, P/F of >200.  Previous sputum cultures confirmed as MSSA
   to add further respiratory insult.
   - Intubated, continue ventilation with ARDSNet settings.
   - Continue to wean vent as tolerated with reducing FiO2 steadily and
   then weaning PEEP as tolerated.
   - continue nafcililn x 14 days from MSSA in sputum
   - [**12-24**] sputum cultures with oropharyngeal flora
   - daily wake up, RSBI, VAP ppx
   .
   # Hypotension: Likely from systemic resonse to ARDS, possible effect of
   propofol for sedation.
   -  no evidence of sepsis, cultures negative
   -  now on minimal pressors, good UOP with stable creatinine.
   - wean pressors as tolerated with goal MAP > 60
   - cautious diuresesis given benefit shown of low CVP in patients with
   ARDS.
   .
   # MSSA Bacteremia
   -          f/u surveillance blood cultures
   -          continue naf x 14 days
   #Sedation: Currently on propofol; versed, and fentanyl weaned to off.
   - continue fentanyl patches and propofol
   .
   # Hypernatremia: Resolved, continue to trend Increase free water
   boluses with tube feeds
   .
   # N/V/diarrhea:  Resolved, continue to follow.
    - send stool if diarrhea returns
   - monitor hct and guaiac stools
   .
   # DM2:  Diet controlled per patient at home.  On sliding scale with
   FSG's<150
   - Insulin sliding scale while in house
   .
   # CAD:  CE's negative x2
   - continue ASA, statin, hold BP Medications
   .
   # Chronic pain:  Neuropathy
   -continue duragesic patches now.
   - avoid oversedation given tentative respiratory status
   .
   # Lung nodule:  Noted on [**10-2**] CT abd and appeared more prominent than
   [**1-/2176**] study measuring 8mm.  6 month f/u imaging was recommended.
   Repeat CT as needed.
   .
   # Anemia:  Stable.
   - continue iron therapy
   .
   # h/o HCV infection: stable. pt reported history of Hep C infection,
   but no active RUQ pain or abnormal LFTs. Confirmed anti-HCV Ab
   positivity, no viral load in our system. HepB serologies negative for
   past/prior infection.
   .
   # Hyperlipidemia: Continue pravastatin
   .
   # HTN: Hold BP medications
   .
   # Asthma: PFTs in our system last from [**2168**] at which time they were
   normal.
   - continue home ipratropium prn; add albuterol prn  -> no indication
   for steroids at this time.
   .
   # BPH: Holding home finasteride.
   .
   # FEN: Replete electrolytes, cardiac, diabetic diet.
   .
   # Prophylaxis: Subcutaneous heparin.  On PPI as outpatient.
   # Access: PIVs., CVL
   # Code: FULL.
   # Communication: Patient and son
   # Disposition: pending above
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-12-27**] 05:07 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-12-23**] 02:30 PM
   Arterial Line - [**2176-12-23**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2176-12-27 10:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PEEP weaned to 8 overnight and then changed to PSV this morning.  Sat's
   decreased to 80's while on PSV.
   Pressors weaned off this AM.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Lidocaine
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2176-12-25**] 03:25 AM
   Vancomycin - [**2176-12-25**] 08:51 AM
   Nafcillin - [**2176-12-27**] 09:02 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Other medications:
   HSQ, colace, fluticasone, neurontin, pravastatin, Vit D, celebrex,
   sertraline, ASA, Fentanyl patch, RISS, Iron, MVI, albuterol/atrovent,
   peridex, Finesteride, lansoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-12-27**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 89 (66 - 89) bpm
   BP: 102/47(64) {88/40(56) - 160/87(116)} mmHg
   RR: 21 (16 - 31) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 8 (3 - 11)mmHg
   Total In:
                                                                  4,239 mL
                                                                  1,707 mL
   PO:
   TF:
                                                                  1,440 mL
                                                                    615 mL
   IVF:
                                                                  1,799 mL
                                                                    762 mL
   Blood products:
   Total out:
                                                                  4,540 mL
                                                                    900 mL
   Urine:
                                                                  4,540 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -301 mL
                                                                    807 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 597 (597 - 670) mL
   PS : 5 cmH2O
   RR (Set): 26
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 96
   PIP: 14 cmH2O
   Plateau: 15 cmH2O
   Compliance: 64.3 cmH2O/mL
   SpO2: 93%
   ABG: 7.46/57/72/37/13
   Ve: 14.8 L/min
   PaO2 / FiO2: 144
   Physical Examination
   General Appearance: Agitated, squirming
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   mechanical BS)
   Abdominal: Soft, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   176 K/uL
   151 mg/dL
   0.6 mg/dL
   37 mEq/L
   3.0 mEq/L
   12 mg/dL
   96 mEq/L
   141 mEq/L
   28.1 %
   6.6 K/uL
        [image002.jpg]
                            [**2176-12-25**]  01:35 AM
                            [**2176-12-25**]  01:38 AM
                            [**2176-12-25**]  05:58 PM
                             [**2176-12-26**]  05:28 AM
                             [**2176-12-26**]  05:40 AM
                             [**2176-12-26**]  11:21 AM
                             [**2176-12-26**]  02:45 PM
                             [**2176-12-26**]  05:54 PM
                             [**2176-12-27**]  04:23 AM
                             [**2176-12-27**]  05:11 AM
   WBC
   6.4
   5.7
   6.6
   Hct
   28.9
   29.3
   28.1
   Plt
   197
   193
   176
   Cr
   0.7
   0.7
   0.6
   TCO2
   38
   38
   37
   39
   41
   41
   42
   Glucose
   121
   141
   151
   Other labs: PT / PTT / INR:15.7/28.4/1.4, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**8-19**], Alk Phos / T Bili:92/0.5,
   Differential-Neuts:89.7 %, Lymph:6.1 %, Mono:2.2 %, Eos:1.8 %, Lactic
   Acid:1.2 mmol/L, Albumin:2.4 g/dL, LDH:299 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR:  Persistent Bibasilar infiltrates as well as R upper lung
   field infiltrate
   Microbiology: Surv BCx:  pending
   Sputum Cx:  OP flora
   Assessment and Plan
   Respiratory Failure:  ARDS secondary to witnessed aspiration.  Overall
   trend has been improvement in oxygenation and mechanics.  Currently
   tolerating PSV but sat's are marginal.  Secretions are copious.
      -Will observe on PSV and adjust PEEP as needed to oxygenate.  Goal
   sats 88-92%
      -Continue to diurese as able, titrate lasix drip to -1L.
      -Continue pulmonary toilet.
    Hypotension:  Able to wean off pressors this AM
      -Will monitor BP with continued diuresis
      -Once on PSV, will try to wean propofol monitor pressor requirement
    Pneumonia:  Abx switched to Nafcillin yesterday given culture
   results.  Secretions are increased today.
      -Check sputum culture and continue nafcillin for now unless spikes
   fever.
    Hypernatremia:  Resolved with additional free water.
    Pain Control: Will monitor requirements as sedation is lessened.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-12-27**] 05:07 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2176-12-23**] 02:30 PM
   Arterial Line - [**2176-12-23**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2176-12-28 11:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   FiO2 and PEEP increased yesterday due to hypoxemia.
   Low grade temps overnight.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Lidocaine
   Unknown;
   Last dose of Antibiotics:
   Nafcillin - [**2176-12-28**] 08:00 AM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Propofol - 77.4 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-12-27**] 09:16 PM
   Other medications:
   Docusate, fluticasone nasal, gabapentin, pravastatin, Vit D, celebrex,
   zoloft, ASA, Fentanyl patch 600mcg, RISS, iron, MVI,
   albuterol/atrovent, peridex, finasteride, lansoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-12-28**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.1
C (97
   HR: 94 (87 - 101) bpm
   BP: 90/76(83) {86/43(57) - 121/87(322)} mmHg
   RR: 13 (13 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 4 (4 - 12)mmHg
   Total In:
                                                                  3,884 mL
                                                                  1,461 mL
   PO:
                                                                     30 mL
   TF:
                                                                  1,308 mL
                                                                    433 mL
   IVF:
                                                                  1,876 mL
                                                                    799 mL
   Blood products:
   Total out:
                                                                  2,780 mL
                                                                  2,230 mL
   Urine:
                                                                  2,780 mL
                                                                  2,230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,104 mL
                                                                   -769 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 668 (511 - 668) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   SpO2: 95%
   ABG: 7.44/55/78.[**Numeric Identifier 181**]/43/10
   Ve: 11.3 L/min
   PaO2 / FiO2: 132
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ventilated BS.)
   Abdominal: Soft, Bowel sounds present, No(t) Distended
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   189 K/uL
   126 mg/dL
   0.6 mg/dL
   43 mEq/L
   3.5 mEq/L
   10 mg/dL
   87 mEq/L
   139 mEq/L
   27.7 %
   8.7 K/uL
        [image002.jpg]
                             [**2176-12-26**]  11:21 AM
                             [**2176-12-26**]  02:45 PM
                             [**2176-12-26**]  05:54 PM
                             [**2176-12-27**]  04:23 AM
                             [**2176-12-27**]  05:11 AM
                             [**2176-12-27**]  11:12 AM
                             [**2176-12-27**]  12:26 PM
                             [**2176-12-27**]  01:32 PM
                             [**2176-12-27**]  03:29 PM
                             [**2176-12-28**]  03:25 AM
   WBC
   6.6
   8.7
   Hct
   28.1
   27.7
   Plt
   176
   189
   Cr
   0.6
   0.6
   TCO2
   39
   41
   41
   42
   41
   43
   44
   39
   Glucose
   151
   126
   Other labs: PT / PTT / INR:15.7/28.4/1.4, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**8-19**], Alk Phos / T Bili:92/0.5,
   Differential-Neuts:89.7 %, Lymph:6.1 %, Mono:2.2 %, Eos:1.8 %, Lactic
   Acid:1.2 mmol/L, Albumin:2.4 g/dL, LDH:299 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.9 mg/dL
   Imaging: CXR:  Decreased effusion on L.  ETT 9cm from carina.  CVC in
   place.
   Microbiology: BCx:  pending
   Sputum:  poor sample
   UCx:  pending
   Assessment and Plan
   Respiratory Failure:  ARDS secondary to witnessed aspiration.  Overall
   trend has been improvement in oxygenation and mechanics.  Currently
   tolerating PSV but requiring high PEEP.  Secretions are copious.
     -Will try to wean PEEP/FiO2 as able
     -Continue to diurese as able.  At present with CVP of 4, will likely
   have to run even.
     -Continue pulmonary toilet.
     -Advance ETT about 4cm.
    Hypotension:  Has been off pressors for about 24 hours.  CVP
   currrently 4.
      -Will monitor BP with continued diuresis
    Pneumonia:  Abx switched to Nafcillin yesterday given culture
   results.  Secretions are increased today.
      -Check sputum culture and continue nafcillin for now unless spikes
   fever.
    Hypernatremia:  Resolved with additional free water.
    Pain Control: Will monitor requirements as sedation is lessened.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-12-27**] 11:58 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2176-12-23**] 02:30 PM
   Arterial Line - [**2176-12-23**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2176-12-29 07:18:00 Physician Resident Progress Note
Chief Complaint: Pneumonia, Resp failure, ARDS
   24 Hour Events:
   - hypotensive with MAPs < 65 (~mid-50's); gave 500 cc NS bolus around
   3pm w/ min improvement, CVP 8
   - weaned PEEP to 8, on PS
   Patient unable to provide history: Sedated
   Allergies:
   Lidocaine
   Unknown;
   Last dose of Antibiotics:
   Nafcillin - [**2176-12-29**] 04:00 AM
   Infusions:
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Furosemide 2-10 mg/hr IV DRIP INFUSION
   Nafcillin 2 g IV Q4H (day 1, [**12-25**], was on levo since [**12-20**])
   Propofol 20-100 mcg/kg/min IV DRIP
   Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY
   Finasteride 5 mg PO DAILY
   Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 7**]
   Ipratropium Bromide MDI 2 PUFF IH Q6H
   Albuterol Inhaler [**1-29**] PUFF IH Q4H  [**12-22**] @ 2115 View
   Multivitamins 1 TAB PO DAILY
   Ferrous Sulfate 325 mg PO DAILY
   Insulin SC Sliding Scale
   Fentanyl Patch 600 mcg/hr TP Q72H
   Aspirin 81 mg PO DAILY
   Sertraline 150 mg PO DAILY
   Celebrex *NF* 200 mg Oral [**Hospital1 7**]
   Vitamin D 800 UNIT PO DAILY
   Pravastatin 20 mg PO DAILY
   Gabapentin 1600 mg PO Q8H
   Fluticasone Propionate NASAL 1 SPRY NU DAILY
   Docusate Sodium 100 mg PO BID
   Senna 1 TAB PO BID:PRN
   Heparin 5000 UNIT SC TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-12-29**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 93 (86 - 101) bpm
   BP: 102/50(66) {87/43(57) - 130/76(89)} mmHg
   RR: 18 (12 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 5 (0 - 8)mmHg
   Total In:
                                                                  3,579 mL
                                                                  1,050 mL
   PO:
                                                                     30 mL
   TF:
                                                                    960 mL
                                                                    281 mL
   IVF:
                                                                  2,329 mL
                                                                    739 mL
   Blood products:
   Total out:
                                                                  3,850 mL
                                                                    450 mL
   Urine:
                                                                  3,350 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -271 mL
                                                                    600 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,368 (539 - 1,368) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 17 cmH2O
   SpO2: 93%
   ABG: 7.44/57/72/38/11
   Ve: 16.2 L/min
   PaO2 / FiO2: 144
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Bronchial: )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   213 K/uL
   9.3 g/dL
   131 mg/dL
   0.6 mg/dL
   38 mEq/L
   3.6 mEq/L
   14 mg/dL
   91 mEq/L
   137 mEq/L
   27.3 %
   8.3 K/uL
        [image002.jpg]
                             [**2176-12-27**]  11:12 AM
                             [**2176-12-27**]  12:26 PM
                             [**2176-12-27**]  01:32 PM
                             [**2176-12-27**]  03:29 PM
                             [**2176-12-28**]  03:25 AM
                             [**2176-12-28**]  02:10 PM
                             [**2176-12-28**]  04:21 PM
                             [**2176-12-29**]  12:37 AM
                             [**2176-12-29**]  05:49 AM
                             [**2176-12-29**]  05:57 AM
   WBC
   8.7
   8.3
   Hct
   27.7
   27.3
   Plt
   189
   213
   Cr
   0.6
   0.6
   TCO2
   41
   43
   44
   39
   44
   43
   40
   40
   Glucose
   126
   131
   Other labs: PT / PTT / INR:15.7/28.4/1.4, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**8-19**], Alk Phos / T Bili:92/0.5,
   Differential-Neuts:89.7 %, Lymph:6.1 %, Mono:2.2 %, Eos:1.8 %, Lactic
   Acid:0.7 mmol/L, Albumin:2.4 g/dL, LDH:299 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR 1/3/0/8:
   IMPRESSION: Partial clearing of right middle lobe, no other changes
   Microbiology: urine [**12-29**] - P
   blood [**12-27**] - ngtd
   sputum [**12-27**] - contaminiated
   sputum [**12-24**] - ngtd
   Assessment and Plan
   Assessment and Plan:  68 y/o M initially admitted to ICU with
   pneumonia, treated with levaquin, transferred back to the ICU for
   desaturation on the floor in setting of aspiration, developed ARDS.
   # Respiratory Failure:  Due to ARDS from aspiration event. His
   respiratory status is further comporomised by his recent MSSA pneumonia
   (cultures from [**12-20**]).
   - Remains intubated, was on ARDSNet settings, now PS
   - wean vent as tolerated
   - attempt to run dry with lasix gtt to minimize pulmonary capillary
   leaking
   - Continue to wean vent as tolerated with reducing FiO2 as tolerated
   and then weaning PEEP as tolerated.
   - continue nafcililn x 14 days from MSSA in sputum ([**12-20**])
   - [**12-24**] sputum cultures without pathogen
   - daily wake up, RSBI, VAP ppx
   # Hypotension: Likely from systemic resonse to ARDS, with possible
   superimposed effect of propofol for sedation.
   -  no evidence of sepsis, all cultures negative
   -  now off pressors, maintains good UOP with stable creatinine
   - attempt to minimize propofol
   - needed bolus overnight; hold lasix gtt while needing bolus
   # MSSA Bacteremia
   -          f/u surveillance blood cultures
   -          continue naf x 14 days
   #Sedation: Currently on propofol, with fentanyl patch.
   - attempt to wean as tolerated to avoid iatrogenic hypotension
   # DM2:  Diet controlled per patient at home.  On sliding scale with
   FSG's<150
   - Insulin sliding scale while in house
   # CAD:  CE's negative x2
   - continue ASA, statin, hold BP Medications
   # Chronic pain:  Neuropathy
   - continue duragesic patches now.
   - avoid oversedation given borderline BP
   # Anemia:  stable
   - continue iron
   # Asthma: PFTs in our system last from [**2168**] at which time they were
   normal.
   - continue home ipratropium prn; add albuterol prn
   # BPH: Holding home finasteride while intubated
   # h/o HCV infection:
   - no active treatment
   # FEN: Replete electrolytes, tube feeds
   # Prophylaxis: Subcutaneous heparin.  On PPI as outpatient.
   # Access: PIVs., CVL, a-line
   # Code: FULL.
   # Communication: nephew
   # Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-12-29**] 12:55 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-12-23**] 02:30 PM
   Arterial Line - [**2176-12-23**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2176-12-29 11:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Mild hypotension overnight-->responded to fluid bolus
   Patient unable to provide history: Sedated
   Allergies:
   Lidocaine
   Unknown;
   Last dose of Antibiotics:
   Nafcillin - [**2176-12-29**] 08:34 AM
   Infusions:
   Other ICU medications:
   Other medications:
   HSQ, Colace, Flonase, neurontin, pravastatin, Vit. D, celebrex, zoloft,
   ASA, Fentanyl patch, RISS, iron, MVI, combivent, peridex, lansoprazole,
   propofol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-12-29**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.5
   HR: 92 (86 - 100) bpm
   BP: 100/48(64) {89/43(58) - 130/65(89)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 5 (0 - 8)mmHg
   Total In:
                                                                  3,579 mL
                                                                  1,635 mL
   PO:
                                                                     30 mL
   TF:
                                                                    960 mL
                                                                    461 mL
   IVF:
                                                                  2,329 mL
                                                                  1,043 mL
   Blood products:
   Total out:
                                                                  3,850 mL
                                                                    850 mL
   Urine:
                                                                  3,350 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -271 mL
                                                                    785 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 642 (539 - 1,368) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 18 cmH2O
   SpO2: 95%
   ABG: 7.44/57/72/38/11
   Ve: 14 L/min
   PaO2 / FiO2: 144
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   213 K/uL
   131 mg/dL
   0.6 mg/dL
   38 mEq/L
   3.6 mEq/L
   14 mg/dL
   91 mEq/L
   137 mEq/L
   27.3 %
   8.3 K/uL
        [image002.jpg]
                             [**2176-12-27**]  11:12 AM
                             [**2176-12-27**]  12:26 PM
                             [**2176-12-27**]  01:32 PM
                             [**2176-12-27**]  03:29 PM
                             [**2176-12-28**]  03:25 AM
                             [**2176-12-28**]  02:10 PM
                             [**2176-12-28**]  04:21 PM
                             [**2176-12-29**]  12:37 AM
                             [**2176-12-29**]  05:49 AM
                             [**2176-12-29**]  05:57 AM
   WBC
   8.7
   8.3
   Hct
   27.7
   27.3
   Plt
   189
   213
   Cr
   0.6
   0.6
   TCO2
   41
   43
   44
   39
   44
   43
   40
   40
   Glucose
   126
   131
   Other labs: PT / PTT / INR:15.7/28.4/1.4, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**8-19**], Alk Phos / T Bili:92/0.5,
   Differential-Neuts:89.7 %, Lymph:6.1 %, Mono:2.2 %, Eos:1.8 %, Lactic
   Acid:0.7 mmol/L, Albumin:2.4 g/dL, LDH:299 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR:  Tubes/lines in place.  Unchanged B/L opacity.
   Microbiology: Blood: NGTD
   UCx: NGTD
   Sputum: NGTD
   Assessment and Plan
   Respiratory Failure:  ARDS secondary to witnessed aspiration.  Overall
   trend has been improvement in oxygenation and mechanics.  Currently
   tolerating PSV and PEEP/FiO2 requirements improving.  Secretions less
   today.
     -SBT today
     -Will try to wean PEEP/FiO2 as able
     -Holding on diuresis for now given low CVP's and borderline MAPS.
     -Continue pulmonary toilet.
    Hypotension:  Has been off pressors for about 24 hours.  CVP
   currrently [**4-30**].
     -Holding diuresis for now as above.
    Pneumonia:  Abx switched to Nafcillin given culture results.
   Secretions are improved today.
     -F/u sputum culture and continue nafcillin for now unless spikes
   fever.
    Hypernatremia:  Resolved with additional free water.
    Pain Control: Will monitor requirements as sedation is lessened.
   Rest of plan per resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-12-29**] 12:55 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2176-12-23**] 02:30 PM
   Arterial Line - [**2176-12-23**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2176-12-30 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Spontaneous breathing trial: hypoxic to 88%-->back on pressure
   support, trying to wean PS
   - remains off pressors
   - still with moderate secretions this AM
   Allergies:
   Lidocaine
   Unknown;
   Last dose of Antibiotics:
   Nafcillin - [**2176-12-30**] 04:26 AM
   Infusions:
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-12-30**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.9
   HR: 94 (87 - 104) bpm
   BP: 104/54(71) {95/46(63) - 127/65(88)} mmHg
   RR: 23 (16 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 5 (1 - 12)mmHg
   Total In:
                                                                  3,413 mL
                                                                  1,258 mL
   PO:
   TF:
                                                                    960 mL
                                                                    310 mL
   IVF:
                                                                  2,142 mL
                                                                    618 mL
   Blood products:
   Total out:
                                                                  1,840 mL
                                                                    780 mL
   Urine:
                                                                  1,840 mL
                                                                    480 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,573 mL
                                                                    478 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 593 (402 - 642) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 63
   PIP: 16 cmH2O
   SpO2: 92%
   ABG: 7.46/50/85.[**Numeric Identifier 126**]/30/9
   Ve: 12.1 L/min
   PaO2 / FiO2: 170
   Physical Examination
   GEN: intubated but follows simple commands, attends
   HEENT: NC/AT
   COR: RRR no m/r/g
   PULM: bibasilar crackles
   ABD: obese and soft, + BS
   EXT: no appreciable edema
   Labs / Radiology
   255 K/uL
   9.1 g/dL
   124 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.6 mEq/L
   15 mg/dL
   98 mEq/L
   135 mEq/L
   26.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2176-12-27**]  01:32 PM
                             [**2176-12-27**]  03:29 PM
                             [**2176-12-28**]  03:25 AM
                             [**2176-12-28**]  02:10 PM
                             [**2176-12-28**]  04:21 PM
                             [**2176-12-29**]  12:37 AM
                             [**2176-12-29**]  05:49 AM
                             [**2176-12-29**]  05:57 AM
                             [**2176-12-30**]  03:44 AM
                             [**2176-12-30**]  04:07 AM
   WBC
   8.7
   8.3
   8.8
   Hct
   27.7
   27.3
   26.4
   Plt
   189
   213
   255
   Cr
   0.6
   0.6
   0.5
   TCO2
   44
   39
   44
   43
   40
   40
   37
   Glucose
   126
   131
   124
   Other labs: PT / PTT / INR:15.7/28.4/1.4, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**8-19**], Alk Phos / T Bili:92/0.5,
   Differential-Neuts:89.7 %, Lymph:6.1 %, Mono:2.2 %, Eos:1.8 %, Lactic
   Acid:0.7 mmol/L, Albumin:2.4 g/dL, LDH:299 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Imaging: [**12-30**] CXR
   my read: slightly improved from yesterday, decrease in pulm vasc edema,
   ETT in good position
   Microbiology: [**12-29**] urine cx: PND
   [**12-27**] BCx: PND
   last positive: sputum and blood for MSSA on [**12-20**]
   Assessment and Plan
   68 y/o M initially admitted to ICU with pneumonia, treated with
   levaquin, transferred back to the ICU for desaturation on the floor in
   setting of aspiration, developed ARDS.
   # Respiratory Failure:  Improving, was due to ARDS from aspiration
   event as well as recent MSSA pneumonia (cultures positive from [**12-20**]).
   Remains intubated on PS
   - repeat SBT today.  If fails, wean pressure support and peep
   - would restart lasix gtt to goal -500cc to -1L today
   - continue nafcililn x 14 days from MSSA in sputum (12/26
 [**1-2**])
   - [**12-24**] sputum cultures without pathogen
   - re-send sputum today as low grade temp
   - daily wake up, RSBI, VAP ppx
   # Hypotension: Likely from systemic resonse to ARDS, with possible
   superimposed effect of propofol for sedation.
   -  no evidence of sepsis, all cultures negative
   -  now off pressors, maintains good UOP with stable creatinine
   - attempt to wean  propofol
   # MSSA Bacteremia
   -  f/u surveillance blood cultures
   -  continue naf x 14 days
   #Sedation: Currently on propofol, with fentanyl patch.
   - attempt to wean as tolerated to avoid iatrogenic hypotension
   # DM2:  Diet controlled per patient at home.  On sliding scale with
   FSG's<150
   - Insulin sliding scale while in house
   # CAD:  CE's negative x2
   - continue ASA, statin, hold BP Medications
   # Chronic pain:  Neuropathy
   - continue duragesic patches now.
   - avoid oversedation given borderline BP
   # Anemia:  stable
   - continue iron
   # Asthma: PFTs in our system last from [**2168**] at which time they were
   normal.
   - continue home ipratropium prn; add albuterol prn
   # BPH: Holding home finasteride while intubated
   # h/o HCV infection:
   - no active treatment
   # FEN: Replete electrolytes, tube feeds
   # Prophylaxis: Subcutaneous heparin.  On PPI as outpatient.
   # Access: PIVs., CVL, a-line
   # Code: FULL.
   # Communication: nephew
   # Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-12-30**] 01:53 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-12-23**] 02:30 PM
   Arterial Line - [**2176-12-23**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2176-12-30 09:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Failed SBT yesterday due to desaturation.
   Moderate secretions.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Lidocaine
   Unknown;
   Last dose of Antibiotics:
   Nafcillin - [**2176-12-30**] 04:26 AM
   Infusions:
   Other ICU medications:
   Other medications:
   HSQ, colace, flonase, neurontin, pravastatin, Vit D., celebrex,
   sertraline, ASA, Fentanyl patch, RISS, Iron, MVI, albuterol/atrovent,
   peridex, prevacid, propofol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-12-30**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 100 (87 - 104) bpm
   BP: 112/56(76) {94/46(63) - 127/65(88)} mmHg
   RR: 23 (17 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 5 (1 - 12)mmHg
   Total In:
                                                                  3,413 mL
                                                                  1,294 mL
   PO:
   TF:
                                                                    960 mL
                                                                    298 mL
   IVF:
                                                                  2,142 mL
                                                                    666 mL
   Blood products:
   Total out:
                                                                  1,840 mL
                                                                    900 mL
   Urine:
                                                                  1,840 mL
                                                                    600 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,573 mL
                                                                    394 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 666 (402 - 666) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 63
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.46/50/85.[**Numeric Identifier 126**]/30/9
   Ve: 14.9 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   255 K/uL
   124 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.6 mEq/L
   15 mg/dL
   98 mEq/L
   135 mEq/L
   26.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2176-12-27**]  01:32 PM
                             [**2176-12-27**]  03:29 PM
                             [**2176-12-28**]  03:25 AM
                             [**2176-12-28**]  02:10 PM
                             [**2176-12-28**]  04:21 PM
                             [**2176-12-29**]  12:37 AM
                             [**2176-12-29**]  05:49 AM
                             [**2176-12-29**]  05:57 AM
                             [**2176-12-30**]  03:44 AM
                             [**2176-12-30**]  04:07 AM
   WBC
   8.7
   8.3
   8.8
   Hct
   27.7
   27.3
   26.4
   Plt
   189
   213
   255
   Cr
   0.6
   0.6
   0.5
   TCO2
   44
   39
   44
   43
   40
   40
   37
   Glucose
   126
   131
   124
   Other labs: PT / PTT / INR:15.7/28.4/1.4, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**8-19**], Alk Phos / T Bili:92/0.5,
   Differential-Neuts:89.7 %, Lymph:6.1 %, Mono:2.2 %, Eos:1.8 %, Lactic
   Acid:0.7 mmol/L, Albumin:2.4 g/dL, LDH:299 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR: Line/tube in place. Unchanged infiltrates
   Microbiology: UCx: NG
   Assessment and Plan
   Respiratory Failure:  ARDS developing secondary to witnessed
   aspiration.  Overall trend has been improvement in oxygenation and
   mechanics.  Failed SBT yesterday. Currently tolerating minimal vent
   support.
     -SBT today.  If passes-->extubate
     -Will try to push diuresis by decreasing propfol
     -Continue pulmonary toilet
 secretions remain an issue
    Hypotension:  Has been off pressors for about 48 hours.  CVP
   currrently [**4-30**].
    Pneumonia/MSSA Bacteremia:  Abx switched to Nafcillin given culture
   results.  Secretions are improved today.
     -F/u sputum culture and continue nafcillin for now unless spikes
   fever.
    Pain Control: Will monitor requirements as sedation is lessened.
    Rest of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2176-12-23**] 02:30 PM
   Arterial Line - [**2176-12-23**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2176-12-31 07:29:00 Physician Resident Progress Note
Chief Complaint: Resp Failure
   ARDS
   Pneumonia
   Bacteremia
   Hypotension
   24 Hour Events:
   - Failed Spontaneous breathing trial in AM
   - Self extubated 6PM, re-intubated without incident
   - had some guaiac + dark stool, with stable HCTs
   - diuresed with lasix 40mg [**Hospital1 **]
   - pressure dipped into 70s after last dose of lasix so started on a
   whiff of levophed
   Allergies:
   Lidocaine
   Unknown;
   Last dose of Antibiotics:
   Nafcillin - [**2176-12-31**] 03:56 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2176-12-30**] 11:45 AM
   Propofol - [**2176-12-30**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-12-31**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100
   HR: 103 (92 - 121) bpm
   BP: 99/49(65) {76/39(51) - 128/86(277)} mmHg
   RR: 27 (18 - 30) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 3 (3 - 4)mmHg
   Total In:
                                                                  2,742 mL
                                                                    573 mL
   PO:
   TF:
                                                                    298 mL
   IVF:
                                                                  1,904 mL
                                                                    543 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                    790 mL
   Urine:
                                                                  2,700 mL
                                                                    790 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                   -258 mL
                                                                   -217 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 478 (478 - 917) mL
   PS : 5 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 40
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: 7.50/38/95.[**Numeric Identifier 218**]/29/5
   Ve: 15.3 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilaterally, Diminished: )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   391 K/uL
   10.2 g/dL
   101 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.3 mEq/L
   12 mg/dL
   94 mEq/L
   138 mEq/L
   29.5 %
   13.5 K/uL
        [image002.jpg]
                             [**2176-12-29**]  12:37 AM
                             [**2176-12-29**]  05:49 AM
                             [**2176-12-29**]  05:57 AM
                             [**2176-12-30**]  03:44 AM
                             [**2176-12-30**]  04:07 AM
                             [**2176-12-30**]  11:04 AM
                             [**2176-12-30**]  02:44 PM
                             [**2176-12-30**]  03:29 PM
                             [**2176-12-31**]  03:45 AM
                             [**2176-12-31**]  04:05 AM
   WBC
   8.3
   8.8
   13.5
   Hct
   27.3
   26.4
   31.5
   29.5
   Plt
   [**Telephone/Fax (3) 4839**]
   Cr
   0.6
   0.5
   0.6
   TCO2
   40
   40
   37
   34
   34
   31
   Glucose
   131
   124
   101
   Other labs: PT / PTT / INR:15.7/28.4/1.4, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**8-19**], Alk Phos / T Bili:92/0.5,
   Differential-Neuts:89.7 %, Lymph:6.1 %, Mono:2.2 %, Eos:1.8 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.4 g/dL, LDH:299 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.2 mg/dL
   MICRO:
   Sputum [**12-24**]: No growth
   Blood [**2176-12-27**]: No growth to date
   Urine cx: [**2176-12-29**]: No growth (final)
   Blood 12/26: MSSA
   Sputum [**12-20**]: MSSA
   Assessment and Plan
   68 y/o M initially admitted to ICU with pneumonia, treated with
   levaquin, transferred back to the ICU for desaturation on the floor in
   setting of aspiration, developed ARDS.
   # Respiratory Failure:  Improving slowly although failed SBT last 2
   days.  Has low grade fever, rising WBC.   Was due to ARDS from
   aspiration event as well as recent MSSA pneumonia (cultures positive
   from [**12-20**]). Sefl-extubated [**2176-12-30**], but re- intubated on ARDSNET
   protocol.
   - repeat SBT today.  Extubate.
   - change ABX to vanco/zosyn given wbc and fever
   - I/O goal even, may need some lasix to achieve this
   - Gram Pos coverage for fMSSA in sputum and blood (12/26
 [**1-2**])
   - [**12-24**] sputum cultures without pathogen
   # Hypotension: Likely from systemic resonse to ARDS, with possible
   superimposed effect of propofol for sedation.
   -  all cultures negative
   -  broaden coverage to vanco/zosyn for rising temp, leukocytosis
   -  was briefly on levophed with IV lasix, now off, maintains good UOP
   with stable creatinine
   -  cont fentanyl, wean once extubated
   # MSSA Bacteremia
   -  f/u surveillance blood cultures
   -  continue naf x 14 days (last day [**2177-1-2**])
   #Sedation: Currently on propofol, fentanyl gtt,  with fentanyl patch.
   - attempt to wean as tolerated to avoid iatrogenic hypotension
   # DM2:  Diet controlled per patient at home.  On sliding scale with
   FSG's<150
   - Insulin sliding scale while in house
   # CAD:  CE's negative x2
   - continue ASA, statin, hold BP Medications
   # Chronic pain:  Neuropathy
   - continue duragesic patches now.
   - avoid oversedation given borderline BP
   # Anemia:  stable
   - continue iron
   # Asthma: PFTs in our system last from [**2168**] at which time they were
   normal.
   - continue home ipratropium prn; add albuterol prn
   # BPH: Holding home finasteride while intubated
   # h/o HCV infection:
   - no active treatment
   # FEN: Replete electrolytes, tube feeds
   # Prophylaxis: Subcutaneous heparin.  On PPI as outpatient.
   # Access: PIVs., CVL, a-line
   # Code: FULL.
   # Communication: nephew
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2176-12-23**] 02:30 PM
   Arterial Line - [**2176-12-23**] 04:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2176-12-31 10:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Failed SBT yesterday AM, with hypoxemia.  Diuresed yesterday with some
   hypotension briefly requiring pressors
   Self-extubated yesterday evening.  Reportedly not in extremus.
   Reintubated without difficulty.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Lidocaine
   Unknown;
   Last dose of Antibiotics:
   Nafcillin - [**2176-12-31**] 08:03 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2176-12-30**] 11:45 AM
   Propofol - [**2176-12-30**] 06:30 PM
   Other medications:
   HSQ, Flonase, gabapentin, pravastatin, colace, Vit. D, celebrex,
   sertraline, ASA, fentanyl patch 600mcg, RISS, MVI, iron,
   Albuterol/atrovent, Peridex, finasteride, prevacid,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-12-31**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 101 (92 - 121) bpm
   BP: 87/45(59) {76/39(51) - 128/86(277)} mmHg
   RR: 29 (18 - 30) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 2 (2 - 4)mmHg
   Total In:
                                                                  2,742 mL
                                                                    822 mL
   PO:
   TF:
                                                                    298 mL
   IVF:
                                                                  1,904 mL
                                                                    792 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                    850 mL
   Urine:
                                                                  2,700 mL
                                                                    850 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                   -258 mL
                                                                    -28 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 478 (478 - 917) mL
   PS : 5 cmH2O
   RR (Set): 26
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 40
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.50/38/95.[**Numeric Identifier 218**]/29/5
   Ve: 13.5 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : Bibasilar, Diminished:
   Bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   391 K/uL
   101 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.3 mEq/L
   12 mg/dL
   94 mEq/L
   138 mEq/L
   29.5 %
   13.5 K/uL
        [image002.jpg]
                             [**2176-12-29**]  12:37 AM
                             [**2176-12-29**]  05:49 AM
                             [**2176-12-29**]  05:57 AM
                             [**2176-12-30**]  03:44 AM
                             [**2176-12-30**]  04:07 AM
                             [**2176-12-30**]  11:04 AM
                             [**2176-12-30**]  02:44 PM
                             [**2176-12-30**]  03:29 PM
                             [**2176-12-31**]  03:45 AM
                             [**2176-12-31**]  04:05 AM
   WBC
   8.3
   8.8
   13.5
   Hct
   27.3
   26.4
   31.5
   29.5
   Plt
   [**Telephone/Fax (3) 4839**]
   Cr
   0.6
   0.5
   0.6
   TCO2
   40
   40
   37
   34
   34
   31
   Glucose
   131
   124
   101
   Other labs: PT / PTT / INR:15.7/28.4/1.4, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**8-19**], Alk Phos / T Bili:92/0.5,
   Differential-Neuts:89.7 %, Lymph:6.1 %, Mono:2.2 %, Eos:1.8 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.4 g/dL, LDH:299 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.2 mg/dL
   Imaging: CXR: Tube, line in place.  Persistent B/L infiltrates, perhaps
   slightly denser at L base.
   Microbiology: UCx: NGTD
   BCx:  NGTD
   Assessment and Plan
   Respiratory Failure:  ARDS  secondary to witnessed aspiration.  Overall
   trend has been improvement in oxygenation and mechanics.  Failed SBT
   and subsequent self-extubation yesterday. Currently tolerating minimal
   vent support.  Given leukocytosis, and low grade fevers, ?concern for
   early VAP
     -SBT again today
     -Send sputum culture
     -Empiric Vanc/zosyn, if cultures negative at 48 hours-->d/c abx.
    Hypotension:  CVP 2, currently off pressors
      -Hold on diuresis.
      -Monitor BP off propofol.
    MSSA Bacteremia:  Will replace nafcillin with Vancomycin for now.
   Course to end [**2177-1-2**]
    Pain Control: Will monitor requirements as sedation is lessened.
    Rest of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2176-12-23**] 02:30 PM
   Arterial Line - [**2176-12-23**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2177-01-01 08:13:00 Physician Resident Progress Note
Chief Complaint: PNA
   RESP FAILURE
   ARDS
   24 Hour Events:
   -- extubated; aline d/c'd
   -- somewhat restless/delirious initially but fell asleep w/o any meds
   -- with lots of mucous production but has good cough and is bringing
   things up
   -- wrote for lasix 20 mg IV x 1 in the am b/c sats dropped slightly to
   low-to-mid 90's and he was somewhat crackly
   History obtained from Patient
   Allergies:
   History obtained from PatientLidocaine
   Unknown;
   Last dose of Antibiotics:
   Nafcillin - [**2176-12-31**] 08:03 AM
   Vancomycin - [**2177-1-1**] 12:10 AM
   Piperacillin/Tazobactam (Zosyn) - [**2177-1-1**] 06:03 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2177-1-1**] 06:14 AM
   Heparin Sodium (Prophylaxis) - [**2177-1-1**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-1-1**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (97
   HR: 95 (95 - 117) bpm
   BP: 132/71(85) {99/53(67) - 139/78(85)} mmHg
   RR: 18 (13 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.3 kg (admission): 88 kg
   Height: 70 Inch
             Total In:
                                                                  1,971 mL
                                                                  1,036 mL
   PO:
             TF:
                                                                    100 mL
   IVF:
                                                                  1,841 mL
                                                                  1,036 mL
   Blood products:
   Total out:
                                                                  2,265 mL
                                                                    820 mL
   Urine:
                                                                  1,990 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -294 mL
                                                                    216 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 26
   SpO2: 96%
   ABG: 7.43/48/75/28/6
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   420 K/uL
   9.5 g/dL
   125 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.0 mEq/L
   12 mg/dL
   100 mEq/L
   140 mEq/L
   27.2 %
   11.7 K/uL
        [image002.jpg]
                             [**2176-12-29**]  05:57 AM
                             [**2176-12-30**]  03:44 AM
                             [**2176-12-30**]  04:07 AM
                             [**2176-12-30**]  11:04 AM
                             [**2176-12-30**]  02:44 PM
                             [**2176-12-30**]  03:29 PM
                             [**2176-12-31**]  03:45 AM
                             [**2176-12-31**]  04:05 AM
                             [**2176-12-31**]  10:53 AM
                             [**2177-1-1**]  03:06 AM
   WBC
   8.8
   13.5
   11.7
   Hct
   26.4
   31.5
   29.5
   27.2
   Plt
   255
   391
   420
   Cr
   0.5
   0.6
   0.5
   TCO2
   40
   37
   34
   34
   31
   33
   Glucose
   124
   101
   125
   Other labs: PT / PTT / INR:15.7/28.4/1.4, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**8-19**], Alk Phos / T Bili:92/0.5,
   Differential-Neuts:89.7 %, Lymph:6.1 %, Mono:2.2 %, Eos:1.8 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.4 g/dL, LDH:299 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Micro
   Blood [**2176-12-31**]- One of Two sets with GPCs
   Assessment and Plan
   68 y/o M initially admitted to ICU with pneumonia, treated with
   levaquin, transferred back to the ICU for desaturation on the floor in
   setting of aspiration, developed ARDS.  Extubated [**2176-12-31**], appears more
   lethargic [**2177-1-1**].
   # Lethargy
   - stop neurontin in case this is contributing; continue fentanyl patch
   for chronic pain for now
   - check ABG
   - check CXR
   - blood cx [**2176-12-31**]
 GPCs ; will send surveillance cultures
   # Respiratory Failure:  Was due to ARDS from aspiration event as well
   as recent MSSA pneumonia (cultures positive from [**12-20**]).  Extubated
   [**2176-12-31**]
   - Some hypoxia overnight, improved with face tent in addition to NC
   (6L)
   - aggressive pulmonary toilet, incentive spirometry
   - Blood with GPC (1 of two); had changed nafcillin to Vanco/Zosyn
   [**2176-12-31**] -- continue broad coverage for now
   - I/O goal even, did get some lasix to help with resp status
   - Gram Pos coverage for MSSA in sputum and blood (12/26
 [**1-2**])
   - [**12-24**] sputum cultures without pathogen
   # Hypotension: Likely from systemic resonse to ARDS, with possible
   superimposed effect of propofol for sedation.
   -  blood 1/6 with GPCs -- f/u speciation
   -  broadened coverage to vanco/zosyn for rising temp, leukocytosis--
   continue for now
   -  was briefly on levophed with IV lasix, now off, maintains good UOP
   with stable creatinine
   - hold lasix with goal I/O of even
   # MSSA Bacteremia
   -  repeat surveillance blood cultures given GPCs from [**2176-12-31**]
   -  continue abx coverage x 14 days(last day [**2177-1-2**]) unless something
   else grows
   # DM2:  Diet controlled per patient at home.  On sliding scale with
   FSG's<150
   - Insulin sliding scale while in house
   # CAD:  CE's negative x2
   - continue ASA, statin, hold BP Medications
   # Chronic pain:  Neuropathy
   - continue duragesic patches now.
   - hold neurontin
   # Anemia:  stable
   - continue iron
   # Asthma: PFTs in our system last from [**2168**] at which time they were
   normal.
   - continue home ipratropium prn; add albuterol prn
   # BPH: Holding home finasteride while intubated
   # h/o HCV infection:
   - no active treatment
   # FEN: Replete electrolytes, speech and swallow eval
 failed.  Tube
   feeds via NG tube
   # Prophylaxis: Subcutaneous heparin.  On PPI as outpatient.
   # Access: PIVs., CVL
   # Code: FULL.
   # Communication: nephew
   ICU [**Name (NI) 81**]
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-12-23**] 02:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU

2177-01-01 09:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday.  Able to cough out secretions.  Some hypoxemia
   overnight-->received lasix.  Tachypnea this morning
 improving
   throughout day.
   Some delirium requiring low dose haldol.
   Some vomiting this AM.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Lidocaine
   Unknown;
   Last dose of Antibiotics:
   Nafcillin - [**2176-12-31**] 08:03 AM
   Vancomycin - [**2177-1-1**] 12:10 AM
   Piperacillin/Tazobactam (Zosyn) - [**2177-1-1**] 06:03 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2177-1-1**] 06:14 AM
   Heparin Sodium (Prophylaxis) - [**2177-1-1**] 06:15 AM
   Other medications:
   HSQ, Colace, gabapentin, pravastatin, Vit D, Celebrex, Zoloft, ASA,
   Fentanyl patch 600mcg, iron, MVI, flonase, prevacid, finasteride,
   Atrovent/albuterol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-1-1**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 95 (95 - 117) bpm
   BP: 132/71(85) {99/53(67) - 139/78(85)} mmHg
   RR: 18 (13 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.3 kg (admission): 88 kg
   Height: 70 Inch
             Total In:
                                                                  1,971 mL
                                                                  1,047 mL
   PO:
             TF:
                                                                    100 mL
   IVF:
                                                                  1,841 mL
                                                                  1,047 mL
   Blood products:
   Total out:
                                                                  2,265 mL
                                                                  1,270 mL
   Urine:
                                                                  1,990 mL
                                                                  1,270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -294 mL
                                                                   -223 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 26
   SpO2: 96%
   ABG: 7.43/48/75/28/6
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, hypophonic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   420 K/uL
   125 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.0 mEq/L
   12 mg/dL
   100 mEq/L
   140 mEq/L
   27.2 %
   11.7 K/uL
        [image002.jpg]
                             [**2176-12-29**]  05:57 AM
                             [**2176-12-30**]  03:44 AM
                             [**2176-12-30**]  04:07 AM
                             [**2176-12-30**]  11:04 AM
                             [**2176-12-30**]  02:44 PM
                             [**2176-12-30**]  03:29 PM
                             [**2176-12-31**]  03:45 AM
                             [**2176-12-31**]  04:05 AM
                             [**2176-12-31**]  10:53 AM
                             [**2177-1-1**]  03:06 AM
   WBC
   8.8
   13.5
   11.7
   Hct
   26.4
   31.5
   29.5
   27.2
   Plt
   255
   391
   420
   Cr
   0.5
   0.6
   0.5
   TCO2
   40
   37
   34
   34
   31
   33
   Glucose
   124
   101
   125
   Other labs: PT / PTT / INR:15.7/28.4/1.4, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**8-19**], Alk Phos / T Bili:92/0.5,
   Differential-Neuts:89.7 %, Lymph:6.1 %, Mono:2.2 %, Eos:1.8 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.4 g/dL, LDH:299 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Imaging: No imaging today.
   Microbiology: BCx:  1/2 bottles with GPC
   Sputum GS:  budding yeast, culture pending
   Assessment and Plan
   Respiratory Failure:  ARDS  secondary to witnessed aspiration.
   Extubated yesterday.  Lethargic today and clearly an aspiration risk.
     -Check CXR and ABG today
     -Empiric Vanc/zosyn, if cultures negative at 48 hours-->d/c abx.
   Positive blood culture: 1/2 bottles, may be contaminant
     -Repeat Blood cultures today.
     -Continue Vanc/Zosyn
    MSSA Bacteremia:  As above, we will repeat cultures.
     -If this appears to be contaminant.  2 week course for original MSSA
   bacteremia will end on [**1-2**].
    Pain Control: Will continue fentanyl patch.
   FEN:  Place NGT today, begin TF and po meds.
   Rest of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-12-23**] 02:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2177-01-02 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2177-1-1**] 12:00 PM
   BC X 2 (peripheral and CVL)
   [**Known lastname 4885**]
   - Surveillance blood cultures sent
   - Failed speech and swallow eval
   - NG tube placed - tube feeds re-started
   - urine culture sent b/c urine cloudy
   This AM, feels "not too good," c/o HA. No SOB or pain.
   History obtained from Patient
   Allergies:
   History obtained from PatientLidocaine
   Unknown;
   Last dose of Antibiotics:
   Nafcillin - [**2176-12-31**] 08:03 AM
   Vancomycin - [**2177-1-2**] 12:38 AM
   Piperacillin/Tazobactam (Zosyn) - [**2177-1-2**] 06:11 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2177-1-1**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2177-1-2**] 06:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-1-2**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.5
C (97.7
   HR: 88 (87 - 97) bpm
   BP: 113/57(72) {102/45(60) - 132/72(86)} mmHg
   RR: 18 (13 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.3 kg (admission): 88 kg
   Height: 70 Inch
             Total In:
                                                                  1,736 mL
                                                                    512 mL
   PO:
             TF:
                                                                     51 mL
                                                                    144 mL
   IVF:
                                                                  1,595 mL
                                                                    368 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                    500 mL
   Urine:
                                                                  1,870 mL
                                                                    300 mL
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                   -134 mL
                                                                     12 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 96%
   ABG: 7.43/45/70/32/4
   PaO2 / FiO2: 140
   Physical Examination
   NAD, A=O x 3, appears comfortable
   RRR no M/r/g
   Bibasilar crackles, no accessory muscle use
   s/nt/nd
   no peripheral edema, WWP
   moves all extrmeitiies equally
   Labs / Radiology
   468 K/uL
   8.8 g/dL
   130 mg/dL
   0.5 mg/dL
   32 mEq/L
   2.9 mEq/L
   18 mg/dL
   98 mEq/L
   140 mEq/L
   26.5 %
   9.5 K/uL
        [image002.jpg]
                             [**2176-12-30**]  04:07 AM
                             [**2176-12-30**]  11:04 AM
                             [**2176-12-30**]  02:44 PM
                             [**2176-12-30**]  03:29 PM
                             [**2176-12-31**]  03:45 AM
                             [**2176-12-31**]  04:05 AM
                             [**2176-12-31**]  10:53 AM
                             [**2177-1-1**]  03:06 AM
                             [**2177-1-1**]  09:35 AM
                             [**2177-1-2**]  03:17 AM
   WBC
   13.5
   11.7
   9.5
   Hct
   31.5
   29.5
   27.2
   26.5
   Plt
   391
   420
   468
   Cr
   0.6
   0.5
   0.5
   TCO2
   37
   34
   34
   31
   33
   31
   Glucose
   101
   125
   130
   Other labs: PT / PTT / INR:15.7/28.4/1.4, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**8-19**], Alk Phos / T Bili:92/0.5,
   Differential-Neuts:89.7 %, Lymph:6.1 %, Mono:2.2 %, Eos:1.8 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.4 g/dL, LDH:299 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   MICRO
   [**1-1**] BCx: ngtd
   [**1-1**] Ucx: NGTD
   [**12-31**] sputum:  sparse OP flora, budding yeast
   [**12-31**] BCx:
 positive for GPCs in p+c
   [**12-31**] Ucx: negative
   Imaging:
   None new
   [**1-1**] CXR
   Right IJ CVL and NGT in standard position. Multifocal opacities appear
   unchanged since this afternoon however increased in the left lower lobe
   when
   compared to study from 9:45 this AM likely representing new aspiration
   or
   worsening multifocal pneumonia.
   Assessment and Plan
   68 y/o M initially admitted to ICU with pneumonia, treated with
   levaquin, transferred back to the ICU for desaturation on the floor in
   setting of aspiration, developed ARDS.  Extubated [**2176-12-31**] without
   respiratory compromise since..
   # Respiratory Failure:  Resolved, with residual O2 requirement (4L) but
   no respiratory distress since extubation on [**2176-12-31**]. Was due to ARDS
   from aspiration event as well as recent MSSA pneumonia (cultures
   positive from [**12-20**]).
   - continue supplemental O2 as necessary for keeping sats >90%
   - aggressive pulmonary toilet, incentive spirometry
   - strict NPO as failed S/S eval
   - I/O goal even to -500cc, lasix prn to help with resp status
   - [**12-24**] sputum cultures without pathogen
   # Positive Blood Cultures/ Bacteremia
 Blood with GPC (1 of two) from
   [**2176-12-31**]; had been receiving gram pos coverage for MSSA in sputum and
   blood with course of nafcillin planned from (12/26
 [**1-2**]), but changed
   nafcillin to Vanco/Zosyn [**2176-12-31**] as appeared worse, leukocytosis, low
   grade temp.
   - would re-narrow to nafcillin and continue coverage until surveillence
   cultures from [**1-1**] and [**1-2**] are negative x 72 hours
   - send surveillence cultures today, followup old cultures
   # Hypotension: Resolved, was likely from systemic resonse to ARDS, with
   possible superimposed effect of propofol for sedation.
   - no e/o sepsis as etiology, improved off of propfol
   - cautious lasix for repsiratory status
   # DM2:  Diet controlled per patient at home.  On sliding scale with
   FSG's<150
   - Insulin sliding scale while in house
   # CAD:  CE's negative x2
   - continue ASA, statin, hold BP Medications for now
   # Chronic pain:  Neuropathy
   - continue duragesic patches now.
   - hold neurontin
   # Anemia:  stable
   - continue iron
    # Asthma: PFTs in our system last from [**2168**] at which time they were
   normal.
   - continue home ipratropium prn, albuterol prn
   # BPH: Holding home finasteride while intubated
   # h/o HCV infection:
   - no active treatment
   # FEN: Replete electrolytes, speech and swallow eval
 failed.  Tube
   feeds via NG tube
   # Prophylaxis: Subcutaneous heparin.  On PPI as outpatient.
   # Access: PIVs., CVL
   # Communication: nephew
   ICU [**Name (NI) 81**]
   Nutrition:
   [**Name (NI) 981**] Pulmonary (Full) - [**2177-1-1**] 06:55 PM 20 mL/hour
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2176-12-23**] 02:30 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: call out to floor

2177-01-02 11:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   NGT placed, TF started
   Failed Swallow study yesterday
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Lidocaine
   Unknown;
   Last dose of Antibiotics:
   Nafcillin - [**2176-12-31**] 08:03 AM
   Vancomycin - [**2177-1-2**] 12:38 AM
   Piperacillin/Tazobactam (Zosyn) - [**2177-1-2**] 06:11 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-1-2**] 06:12 AM
   Other medications:
   Colace, pravastatin, Vit D, ASA, sertraline, celebrex, fentanyl patch,
   iron, MVI, flonase, RISS, finasteride, lansoprazole, Albuterol/Atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-1-2**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 99 (87 - 99) bpm
   BP: 115/54(68) {102/45(60) - 118/63(74)} mmHg
   RR: 19 (11 - 22) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.3 kg (admission): 88 kg
   Height: 70 Inch
             Total In:
                                                                  1,736 mL
                                                                    688 mL
   PO:
             TF:
                                                                     51 mL
                                                                    179 mL
   IVF:
                                                                  1,595 mL
                                                                    509 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                    580 mL
   Urine:
                                                                  1,870 mL
                                                                    380 mL
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                   -134 mL
                                                                    108 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///32/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): place, person, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   468 K/uL
   130 mg/dL
   0.5 mg/dL
   32 mEq/L
   2.9 mEq/L
   18 mg/dL
   98 mEq/L
   140 mEq/L
   26.5 %
   9.5 K/uL
        [image002.jpg]
                             [**2176-12-30**]  04:07 AM
                             [**2176-12-30**]  11:04 AM
                             [**2176-12-30**]  02:44 PM
                             [**2176-12-30**]  03:29 PM
                             [**2176-12-31**]  03:45 AM
                             [**2176-12-31**]  04:05 AM
                             [**2176-12-31**]  10:53 AM
                             [**2177-1-1**]  03:06 AM
                             [**2177-1-1**]  09:35 AM
                             [**2177-1-2**]  03:17 AM
   WBC
   13.5
   11.7
   9.5
   Hct
   31.5
   29.5
   27.2
   26.5
   Plt
   391
   420
   468
   Cr
   0.6
   0.5
   0.5
   TCO2
   37
   34
   34
   31
   33
   31
   Glucose
   101
   125
   130
   Other labs: PT / PTT / INR:15.7/28.4/1.4, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:[**8-19**], Alk Phos / T Bili:92/0.5,
   Differential-Neuts:89.7 %, Lymph:6.1 %, Mono:2.2 %, Eos:1.8 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.4 g/dL, LDH:299 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR ([**1-1**]):  NGT, CVC in place.  Unchanged B/L opacities
   Microbiology: BCx:  NGTD
   UCx: NGTD
   Sputum: budding yeast
   BCx:  [**12-27**] GPC species pending
   Assessment and Plan
   Respiratory Failure:  ARDS  secondary to witnessed aspiration.
   Extubated on [**12-31**].  Clearly still an aspiration risk.
     -D/C Zosyn as no clear evidence at this point of a new PNA.
    Positive blood culture: 1/2 bottles, may be contaminant
     -Follow up surv cultures.
     -Continue Vanc until surv cx results known for 48 hours.
    MSSA Bacteremia:  As above, we will repeat cultures.
     -course for original bacteremia ends today but will keep vanco on
   board for now until surv cx's of recent positive cultures are known.
    Pain Control: Will continue fentanyl patch.
    FEN:  Continue tube feeds.
    Rest of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2176-12-23**] 02:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   Patient is critically ill